2111-12-08 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pneumonia and sepsis
   24 Hour Events:
 NASAL SWAB - At [**2111-12-7**] 09:30 AM
   r/o influenza A
 MULTI LUMEN - START [**2111-12-7**] 05:53 PM
 EKG - At [**2111-12-7**] 10:00 PM
   Paralysis with Cisatracurium - 0.1 mg/Kg/hour
    because overbreathing the vent
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2111-12-7**] 08:00 PM
   Vancomycin - [**2111-12-8**] 12:00 AM
   Metronidazole - [**2111-12-8**] 06:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-8**] 06:08 AM
   Infusions:
   Cisatracurium - 0.1 mg/Kg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2111-12-7**] 07:50 PM
   Dextrose 50% - [**2111-12-8**] 04:00 AM
   Cisatracurium - [**2111-12-8**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Eyes: Conjunctival edema
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: NPO
   Respiratory: Wheeze
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2111-12-8**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 85 (61 - 85) bpm
   BP: 84/52(213) {73/47(60) - 168/156(286)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 56 Inch
    CVP: 15 (13 - 28)mmHg
   Total In:
                                                                  4,306 mL
                                                                  1,863 mL
   PO:
   TF:
   IVF:
                                                                  3,186 mL
                                                                  1,838 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                    325 mL
   Urine:
                                                                  3,490 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    816 mL
                                                                  1,539 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   Compliance: 20.6 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/28/82.[**Numeric Identifier 253**]/23/-6
   Ve: 7.8 L/min
   PaO2 / FiO2: 83
   Physical Examination
   General Appearance: Overweight / Obese, Diaphoretic
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Abdominal: Soft, Bowel sounds present, Not distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, No(t) Oriented (to): ,
   Movement: Non -purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   316 K/uL
   11.4 g/dL
   77 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   17 mg/dL
   106 mEq/L
   137 mEq/L
   31.5 %
   18.5 K/uL
        [image002.jpg]
                             [**2111-12-7**]  09:28 AM
                             [**2111-12-7**]  10:00 AM
                             [**2111-12-7**]  03:01 PM
                             [**2111-12-7**]  04:26 PM
                             [**2111-12-7**]  09:04 PM
                             [**2111-12-7**]  09:14 PM
                            [**2111-12-8**]  12:26 AM
                            [**2111-12-8**]  02:59 AM
                            [**2111-12-8**]  03:33 AM
                            [**2111-12-8**]  06:33 AM
   WBC
   18.5
   Hct
   31.5
   Plt
   316
   Cr
   1.0
   1.2
   1.1
   TCO2
   16
   14
   23
   23
   20
   17
   Glucose
   [**Telephone/Fax (3) 9903**]66
   77
   Other labs: PT / PTT / INR:14.1/42.7/1.2, Differential-Neuts:94.3 %,
   Lymph:3.4 %, Mono:1.8 %, Eos:0.3 %, Lactic Acid:1.5 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   .
   Assessment and Plan:
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Pneumonia: Patient has history of fevers, cough productive of yellow
   sputum and increasing SOB consistent with PNA. Fever couple days ago,
   could have post-flu bacterial PNA. Chest CT shows severe pneumonia, but
   no abscesses or effusions. Legionella Ag negative. Flu positive
   -Vanco, Zosyn, Levo
   -Sputum cx f/u
   -Cell counts on BAL fluid f/u
   -Treat with tamiflu
   -Consult ID about adding IV paramivir
   .
   # Respiratory failure: as above. Most likely etiology ARDS/sepsis vs
   PNA. p/F<200 ARDS. Patient had BNP done at outside hospital which was
   normal, basically ruling out CHF. He is currently producing frothy
   sputum. Ventillation per ARDS net protocol.  If patient continues to
   require increased PEEP, will consider Esophageal balloon to further
   assess.  Patient put on propofol drip because overbreathing the vent.
   Still overbreathing the vent but improving ABG
   -paralysis with Cisatracurium Besylate 0.06-0.30 mg/kg/hr IV TITRATE TO
   paralysis
   -Esophageal balloon this morning
   -Repeat CXR this morning to check tube position
   .
   # Hypotension: Patient appears to be presenting with sepsis with
   tachycardia, elevated RR and elevated WBC count. [**Month (only) 8**] have hypotension
   secondary to end-organ hypoperfusion. Given setting of sepsis, started
   on levophed.
   -Will give fluids to volume rescusitate in attempt to get off of
   pressors
   -Give 150 mEq of NaBicarb in 1000 mL D5W (500cc)
   -If following volume rescusitation ineffective will give 500 cc bolus
   of LR.
   .
   #Abdominal Pain: Per patient's father, patient having abdominal pain
   1-2 days which was being treated with heating pad with some
   improvement. Also notes that he was having diarrhea, unclear duration.
   CT abdomen to assess. Stool sent for C. diff. Also LFT
s were elevated
   -Recheck LFT
s today
   .
   #Acidosis; Patient has a normal lactate, decreased bicarb. Per family
   has had several days of diarrhea so most likely had true losses of
   bicarb, likely cause of acidosis. Gave 150 mEq of NaBicarb in 1000 mL
   D5W (500cc)
   -Continue to bolus with bicarb if continues to have non-gap acidosis in
   setting of diarrhea
   .
   # Hyponatremia: Most likely hypovolemic hyponatremia, responding well
   to fluids (increased from 120 at OSH--> 126 here)  This morning is 137.
   -Continue to monitor, volume repletion as above
   .
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Verified with PCP
   .
   #DM II: Insulin s/s as patient currently NPO
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes, start tube feeds
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full (discussed with patient)
   Communication: Father and mother
   Disposition: pending clinical improvement

2111-12-08 09:06:00 Physician Attending Progress Note
Chief Complaint: influenza and ARDS1
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2111-12-7**] 09:30 AM
   r/o influenza A
 MULTI LUMEN - START [**2111-12-7**] 05:53 PM
 MULTI LUMEN - STOP [**2111-12-7**] 08:41 PM
 EKG - At [**2111-12-7**] 10:00 PM
   CVL placed
   Fem line removed
   CCT
   influenza A(+)
   Paralyzed
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2111-12-7**] 08:00 PM
   Vancomycin - [**2111-12-8**] 12:00 AM
   Metronidazole - [**2111-12-8**] 06:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-8**] 06:08 AM
   Infusions:
   Cisatracurium - 0.08 mg/Kg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2111-12-7**] 07:50 PM
   Dextrose 50% - [**2111-12-8**] 04:00 AM
   Cisatracurium - [**2111-12-8**] 04:30 AM
   Other medications:
   midaz off, fent @ 25, levo 0.1, CHG, levoflox, zosyn, vanco, flagyl,
   synthroid, oseltamivir 150, cisatra @ 0.08, SQI,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-8**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 79 (61 - 85) bpm
   BP: 75/59(66) {73/47(60) - 168/156(286)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 56 Inch
   CVP: 15 (13 - 28)mmHg
   Total In:
                                                                  4,306 mL
                                                                  1,928 mL
   PO:
   TF:
   IVF:
                                                                  3,186 mL
                                                                  1,903 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                    360 mL
   Urine:
                                                                  3,490 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    816 mL
                                                                  1,568 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 21.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/28/82.[**Numeric Identifier 253**]/23/-6
   Ve: 8 L/min
   PaO2 / FiO2: 83
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: coarse breath sounds, distant
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+ edema
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Paralyzed, Tone: Decreased
   Labs / Radiology
   11.4 g/dL
   316 K/uL
   77 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   17 mg/dL
   106 mEq/L
   137 mEq/L
   31.5 %
   18.5 K/uL
        [image002.jpg]
                             [**2111-12-7**]  09:28 AM
                             [**2111-12-7**]  10:00 AM
                             [**2111-12-7**]  03:01 PM
                             [**2111-12-7**]  04:26 PM
                             [**2111-12-7**]  09:04 PM
                             [**2111-12-7**]  09:14 PM
                            [**2111-12-8**]  12:26 AM
                            [**2111-12-8**]  02:59 AM
                            [**2111-12-8**]  03:33 AM
                            [**2111-12-8**]  06:33 AM
   WBC
   18.5
   Hct
   31.5
   Plt
   316
   Cr
   1.0
   1.2
   1.1
   TCO2
   16
   14
   23
   23
   20
   17
   Glucose
   [**Telephone/Fax (3) 9903**]66
   77
   Other labs: PT / PTT / INR:14.1/42.7/1.2, Differential-Neuts:94.3 %,
   Lymph:3.4 %, Mono:1.8 %, Eos:0.3 %, Lactic Acid:1.5 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR with bilateral infiltrates
   Today's pending
   Assessment and Plan
   56-year-old man with Down
s syndrome and complex past history now with
          influenza
          ARDS
          ?bacterial pneumonia
          Shock
          Respiratory failure
          Pneumonia
          Shock
          Hyponatremia
          Acidosis
   We will
          treat broadly for bacterial pneumonia (including resistant
   organisms, given hx MRSA, as well as atypicals)
          begin treatment for influenza while awaiting DFA
          ARDSnet ventilation
          fully culture
          Blood, urine, sputum
          C diff
          Legionella Ag
          Influenza DFA
          Image abdomen and chest, given prior abdominal surgery,
   complexity of disease and the fact that he may soon be too ill to move
   to CT
          Check LFTs
          Check urine lytes and frequent serum lytes
          Communication with father and get home list
   Patient is critically ill.  Time spent: 35 minutes
   ------ Protected Section ------
   Addendum
   Met with family and reviewed severity of disease.
   CVL placed.
   Influenza DFA non-diagnostic
 repeated.
   Acid-base status showed non-gap acidosis (c/w diarrhea)
 bicarb given
   FiO2 attempted to wean
 unable
   Additional history obtained from outpatient pulmonologist
   We will plan
   1)       trial of ARDSnet ventilation (likely higher PEEP)
   2)       increase oseltamivir to 150 [**Hospital1 **]
   3)       if unable to wean FiO2 to 0.7 or lower, trial of paralysis
   4)       check CVP and consider volume challenge
   He is critically ill:  45 minutes
   )
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-12-7**] 03:13 AM
   Arterial Line - [**2111-12-7**] 05:30 AM
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Prophylaxis:
   DVT: Boots(add SQH)
   Stress ulcer: add H2B
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2111-12-09 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock in the setting of ARDS d/t influenza
   24 Hour Events:
 ARTERIAL LINE - START [**2111-12-8**] 11:14 AM
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-8**] 03:47 PM
   Levofloxacin - [**2111-12-8**] 07:30 PM
   Azithromycin - [**2111-12-8**] 09:05 PM
   Vancomycin - [**2111-12-8**] 11:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-9**] 06:01 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 50 mcg/Kg/min
   Cisatracurium - 0.12 mg/Kg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-8**] 04:51 PM
   Famotidine (Pepcid) - [**2111-12-8**] 09:06 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-8**] 11:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2111-12-9**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 86 (63 - 118) bpm
   BP: 92/49(63) {75/46(63) - 146/72(96)} mmHg
   RR: 26 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.7 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 22 (11 - 24)mmHg
   Total In:
                                                                  5,007 mL
                                                                    953 mL
   PO:
   TF:
                                                                     96 mL
                                                                    228 mL
   IVF:
                                                                  4,837 mL
                                                                    725 mL
   Blood products:
   Total out:
                                                                  1,801 mL
                                                                    525 mL
   Urine:
                                                                  1,801 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,206 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 350) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/50/81.[**Numeric Identifier 252**]/25/0
   Ve: 7.9 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: L eye not respnsive to light and L eye with
   translucent film over eye
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Wheezes : )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   248 K/uL
   10.3 g/dL
   198 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.6 mEq/L
   16 mg/dL
   102 mEq/L
   134 mEq/L
   29.4 %
   9.3 K/uL
        [image002.jpg]
                            [**2111-12-8**]  12:26 AM
                            [**2111-12-8**]  02:59 AM
                            [**2111-12-8**]  03:33 AM
                            [**2111-12-8**]  06:33 AM
                            [**2111-12-8**]  12:54 PM
                            [**2111-12-8**]  03:54 PM
                            [**2111-12-8**]  05:35 PM
                            [**2111-12-8**]  10:56 PM
                            [**2111-12-9**]  02:31 AM
                            [**2111-12-9**]  02:58 AM
   WBC
   18.5
   9.3
   Hct
   31.5
   29.4
   Plt
   316
   248
   Cr
   1.1
   1.3
   TCO2
   23
   20
   17
   20
   23
   26
   24
   27
   Glucose
   77
   [**Telephone/Fax (3) 9926**]98
   Other labs: PT / PTT / INR:13.7/47.5/1.2, ALT / AST:29/39, Alk Phos / T
   Bili:46/0.4, Differential-Neuts:94.3 %, Lymph:3.4 %, Mono:1.8 %,
   Eos:0.3 %, Lactic Acid:1.2 mmol/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   Assessment and Plan:
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Pneumonia: Patient has history of fevers, cough productive of yellow
   sputum and increasing SOB consistent with PNA. Fever couple days ago,
   could have post-flu bacterial PNA. Chest CT shows severe pneumonia, but
   no abscesses or effusions. Legionella Ag negative. Flu positive
   -Vanco, Zosyn, Levo
   -Sputum cx f/u
   -Cell counts on BAL fluid f/u
   -Treat with tamiflu
   -Consult ID about adding IV paramivir
   .
   # Respiratory failure: as above. Most likely etiology ARDS/sepsis vs
   PNA. p/F<200 ARDS. Patient had BNP done at outside hospital which was
   normal, basically ruling out CHF. He is currently producing frothy
   sputum. Ventillation per ARDS net protocol.  If patient continues to
   require increased PEEP, will consider Esophageal balloon to further
   assess.  Patient put on propofol drip because overbreathing the vent.
   Still overbreathing the vent but improving ABG
   -paralysis with Cisatracurium Besylate 0.06-0.30 mg/kg/hr IV TITRATE TO
   paralysis
   -Esophageal balloon this morning
   -Repeat CXR this morning to check tube position
   .
   # Hypotension: Patient appears to be presenting with sepsis with
   tachycardia, elevated RR and elevated WBC count. [**Month (only) 8**] have hypotension
   secondary to end-organ hypoperfusion. Given setting of sepsis, started
   on levophed.
   -Will give fluids to volume rescusitate in attempt to get off of
   pressors
   -Give 150 mEq of NaBicarb in 1000 mL D5W (500cc)
   -If following volume rescusitation ineffective will give 500 cc bolus
   of LR.
   .
   #Abdominal Pain: Per patient's father, patient having abdominal pain
   1-2 days which was being treated with heating pad with some
   improvement. Also notes that he was having diarrhea, unclear duration.
   CT abdomen to assess. Stool sent for C. diff. Also LFT
s were elevated
   -Recheck LFT
s today
   .
   #Acidosis; Patient has a normal lactate, decreased bicarb. Per family
   has had several days of diarrhea so most likely had true losses of
   bicarb, likely cause of acidosis. Gave 150 mEq of NaBicarb in 1000 mL
   D5W (500cc)
   -Continue to bolus with bicarb if continues to have non-gap acidosis in
   setting of diarrhea
   .
   # Hyponatremia: Most likely hypovolemic hyponatremia, responding well
   to fluids (increased from 120 at OSH--> 126 here)  This morning is 137.
   -Continue to monitor, volume repletion as above
   .
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Verified with PCP
   .
   #DM II: Insulin s/s as patient currently NPO
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes, start tube feeds
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full (discussed with patient)
   Communication: Father and mother
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2111-12-8**] 04:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-09 11:28:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: influenza, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2111-12-8**] 11:07 AM
 ARTERIAL LINE - START [**2111-12-8**] 11:14 AM
   Esophageal balloon, increased PEEP --> decreased FiO2.
   Off pressors recently.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-8**] 03:47 PM
   Levofloxacin - [**2111-12-8**] 07:30 PM
   Azithromycin - [**2111-12-8**] 09:05 PM
   Vancomycin - [**2111-12-8**] 11:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-9**] 06:01 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Cisatracurium - 0.12 mg/Kg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-8**] 04:51 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-9**] 08:04 AM
   Famotidine (Pepcid) - [**2111-12-9**] 08:05 AM
   Other medications:
   fentanyl @ 25, levophed off, CHG, Zosyn, vanco, synthroid, propofol @
   60, cisatra @ 0.12, H2B, SQH, tamiflu 150 [**Hospital1 **], azithro, SQI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-9**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.5
C (97.7
   HR: 79 (63 - 118) bpm
   BP: 89/49(62) {89/47(61) - 146/70(96)} mmHg
   RR: 22 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.7 kg (admission): 74.8 kg
   Height: 58 Inch
   CVP: 16 (11 - 24)mmHg
   Total In:
                                                                  5,007 mL
                                                                  1,312 mL
   PO:
   TF:
                                                                     96 mL
                                                                    362 mL
   IVF:
                                                                  4,837 mL
                                                                    950 mL
   Blood products:
   Total out:
                                                                  1,801 mL
                                                                    627 mL
   Urine:
                                                                  1,801 mL
                                                                    627 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,206 mL
                                                                    685 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 350) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   Compliance: 27.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/47/77/25/-2
   Ve: 7.3 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam only)
   Abdominal: Soft, protuberant
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   10.3 g/dL
   248 K/uL
   139 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.8 mEq/L
   16 mg/dL
   102 mEq/L
   134 mEq/L
   29.4 %
   9.3 K/uL
        [image002.jpg]
                            [**2111-12-8**]  02:59 AM
                            [**2111-12-8**]  03:33 AM
                            [**2111-12-8**]  06:33 AM
                            [**2111-12-8**]  12:54 PM
                            [**2111-12-8**]  03:54 PM
                            [**2111-12-8**]  05:35 PM
                            [**2111-12-8**]  10:56 PM
                            [**2111-12-9**]  02:31 AM
                            [**2111-12-9**]  02:58 AM
                            [**2111-12-9**]  10:56 AM
   WBC
   18.5
   9.3
   Hct
   31.5
   29.4
   Plt
   316
   248
   Cr
   1.1
   1.3
   TCO2
   20
   17
   20
   23
   26
   24
   27
   25
   Glucose
   77
   [**Telephone/Fax (3) 9926**]98
   139
   Other labs: PT / PTT / INR:13.7/47.5/1.2, ALT / AST:29/39, Alk Phos / T
   Bili:46/0.4, Differential-Neuts:94.3 %, Lymph:3.4 %, Mono:1.8 %,
   Eos:0.3 %, Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Fluid analysis / Other labs: LFTs decreased
   Imaging: CXR: improved opacities
   Microbiology: No new (+)
   Assessment and Plan
   56-year-old man with
          Influenza (presumptive H1N1)
          ARDS (severe hypoxemic respiratory failure)
          Shock
   We have made improvements in his oxygenation with esophageal
   pressure-guided PEEP.  Today, we will try to run approximately even
   (even if needs pressors) and leave paralyzed.  Decrease Vt toward 250
   270.
   Continue tamiflu.  We will attempt to get peramivir from the Strategic
   National Stockpile.  Appreciated ID
s help.  Continue present
   antibiotics for now.
   Other issues as per the ICU team note from today.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2111-12-8**] 04:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 min
   Patient is critically ill

2111-12-10 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
 STOOL CULTURE - At [**2111-12-10**] 12:30 AM cdiff
   - gave 20mg IV lasix with goal even.  Was positive, so given 40mg IV
   lasix at 7pm.
   - was desaturating when put onto right side.  Repeat CXR was slightly
   worse vs. poor inspiration.  Patient stabilized when on left side.
   - father gave verbal consent for peramivir.  Started on peramivir 600mg
   daily and oseltamivir stopped.
   - patient ET tube leaking at 8pm.  High PEEPs seemed to be pushing the
   tube up.  Initially tried to push down a couple of centimeters and
   repeated CXR -> tube very high up, almost to larynx.  Tried to push
   down again, but kinked in mouth, temporarily not ventilated.  Then tube
   passed well.  Repeat CXR --> ET tube still up 10cm.  Finally anesthesia
   was called.  Pulled tube and balloon was above the chords.  Emergently
   placed new tube and patient's oxygenation improved.  CXR showed R
   bronchi tubed.  withdrawn, final CXR with good placement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-8**] 03:47 PM
   Levofloxacin - [**2111-12-8**] 07:30 PM
   Azithromycin - [**2111-12-9**] 09:00 PM
   Vancomycin - [**2111-12-10**] 12:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-10**] 06:16 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-9**] 06:38 PM
   Famotidine (Pepcid) - [**2111-12-9**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-10**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-10**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.3
   HR: 78 (74 - 104) bpm
   BP: 102/50(66) {89/45(61) - 126/58(83)} mmHg
   RR: 21 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.2 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 19 (13 - 19)mmHg
   Total In:
                                                                  2,996 mL
                                                                    758 mL
   PO:
   TF:
                                                                    613 mL
                                                                     67 mL
   IVF:
                                                                  2,383 mL
                                                                    691 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    440 mL
   Urine:
                                                                  1,555 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,441 mL
                                                                    318 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 270 (270 - 300) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 20.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/44/140/25/-2
   Ve: 6.5 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: L eye not respnsive to light and L eye with
   translucent film over eye
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Wheezes : )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Labs / Radiology
   237 K/uL
   10.0 g/dL
   165 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.5 mEq/L
   20 mg/dL
   99 mEq/L
   133 mEq/L
   28.1 %
   8.2 K/uL
        [image002.jpg]
                            [**2111-12-9**]  02:58 AM
                            [**2111-12-9**]  10:56 AM
                            [**2111-12-9**]  12:43 PM
                            [**2111-12-9**]  07:20 PM
                            [**2111-12-9**]  07:30 PM
                            [**2111-12-9**]  09:01 PM
                            [**2111-12-9**]  10:25 PM
                            [**2111-12-10**]  01:24 AM
                            [**2111-12-10**]  01:38 AM
                            [**2111-12-10**]  06:13 AM
   WBC
   8.2
   Hct
   28.1
   Plt
   237
   Cr
   1.3
   1.3
   TCO2
   27
   25
   24
   28
   27
   27
   28
   24
   Glucose
   198
   139
   172
   166
   [**Telephone/Fax (2) 9941**]65
   Other labs: PT / PTT / INR:13.7/47.5/1.2, ALT / AST:29/39, Alk Phos / T
   Bili:46/0.4, Differential-Neuts:94.3 %, Lymph:3.4 %, Mono:1.8 %,
   Eos:0.3 %, Lactic Acid:1.1 mmol/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.5 mg/dL
   Imaging: CXR: bilateral opacities, final one w/ good ET tube placement.
   Microbiology: Stool c diff negative
   Sputum: no organisms on stain, cultures pending.
   Line tip: no growth.
   Assessment and Plan
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Pneumonia: Patient has history of fevers, cough productive of yellow
   sputum and increasing SOB consistent with PNA. Fever couple days ago,
   could have post-flu bacterial PNA. Chest CT shows severe pneumonia, but
   no abscesses or effusions. Legionella Ag negative. Flu positive
   -Vanco, Zosyn, Levo
   -Sputum cx f/u
   -Cell counts on BAL fluid f/u
   -Treat with tamiflu
   -Add IV paramivir
   .
   # Respiratory failure: as above. Most likely etiology ARDS/sepsis vs
   PNA. p/F<200 ARDS. Patient had BNP done at outside hospital which was
   normal, basically ruling out CHF. He is currently producing frothy
   sputum. Ventillation per ARDS net protocol.  If patient continues to
   require increased PEEP, will consider Esophageal balloon to further
   assess.  Patient put on propofol drip because overbreathing the vent.
   Still overbreathing the vent but improving ABG
   -paralysis with Cisatracurium Besylate 0.06-0.30 mg/kg/hr IV TITRATE TO
   paralysis
   -Esophageal balloon this morning
   -Daily CXR
   .
   # Hypotension: Patient appears to be presenting with sepsis with
   tachycardia, elevated RR and elevated WBC count. [**Month (only) 8**] have hypotension
   secondary to end-organ hypoperfusion. Given setting of sepsis, started
   on levophed.
   -Will hold off on fluids because seems to be adequately hydrated and
   too many fluids will not help resp situation
   .
   #Abdominal Pain: Per patient's father, patient having abdominal pain
   1-2 days which was being treated with heating pad with some
   improvement. Also notes that he was having diarrhea, unclear duration.
   CT abdomen to assess. Stool sent for C. diff. Also LFT
s were
   elevated.  Yesterday had normalized.  Likely ischemic injury from
   illness.
   -Recheck LFT
s q4d
   - Will give bowel regimen and see if improves distention
   .
   #Acidosis; Patient has a normal lactate, decreased bicarb. Per family
   has had several days of diarrhea so most likely had true losses of
   bicarb, likely cause of acidosis. Gave 150 mEq of NaBicarb in 1000 mL
   D5W (500cc)
   - Continue to bolus with bicarb if continues to have non-gap acidosis
   in setting of diarrhea
   - Repeat ABG
   .
   # Hyponatremia: Most likely hypovolemic hyponatremia, responding well
   to fluids (increased from 120 at OSH--> 126 here)  This morning is 134.
   - Leave for now and reassess tomorrow.
   .
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Verified with PCP
   .
   #DM II: Insulin s/s as patient currently NPO
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes, tube feeds
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full (discussed with patient)
   Communication: Father and mother
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2111-12-9**] 12:05 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-10 10:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, H1N1 influenza
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ETT changed last PM semi-emergently due to migration above vocal cords
   peramivir started yesterday
   24 Hour Events:
 STOOL CULTURE - At [**2111-12-10**] 12:30 AM
   cdiff
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-8**] 03:47 PM
   Levofloxacin - [**2111-12-8**] 07:30 PM
   Azithromycin - [**2111-12-9**] 09:00 PM
   Vancomycin - [**2111-12-10**] 12:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-10**] 06:16 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-9**] 06:38 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-10**] 12:15 AM
   Famotidine (Pepcid) - [**2111-12-10**] 08:53 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2111-12-10**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 87 (76 - 104) bpm
   BP: 134/66(90) {97/45(62) - 134/66(90)} mmHg
   RR: 26 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.2 kg (admission): 74.8 kg
   Height: 58 Inch
   CVP: 18 (13 - 19)mmHg
   Total In:
                                                                  2,996 mL
                                                                  1,137 mL
   PO:
   TF:
                                                                    613 mL
                                                                    101 mL
   IVF:
                                                                  2,383 mL
                                                                  1,036 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    655 mL
   Urine:
                                                                  1,555 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,441 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 270 (270 - 270) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.32/50/86.[**Numeric Identifier 253**]/25/0
   Ve: 6.6 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   237 K/uL
   144 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.7 mEq/L
   20 mg/dL
   99 mEq/L
   133 mEq/L
   28.1 %
   8.2 K/uL
        [image002.jpg]
                            [**2111-12-9**]  10:56 AM
                            [**2111-12-9**]  12:43 PM
                            [**2111-12-9**]  07:20 PM
                            [**2111-12-9**]  07:30 PM
                            [**2111-12-9**]  09:01 PM
                            [**2111-12-9**]  10:25 PM
                            [**2111-12-10**]  01:24 AM
                            [**2111-12-10**]  01:38 AM
                            [**2111-12-10**]  06:13 AM
                            [**2111-12-10**]  09:16 AM
   WBC
   8.2
   Hct
   28.1
   Plt
   237
   Cr
   1.3
   1.3
   TCO2
   25
   24
   28
   27
   27
   28
   24
   27
   Glucose
   139
   172
   166
   [**Telephone/Fax (2) 9945**]44
   Other labs: PT / PTT / INR:13.7/47.5/1.2, ALT / AST:29/39, Alk Phos / T
   Bili:46/0.4, Differential-Neuts:94.3 %, Lymph:3.4 %, Mono:1.8 %,
   Eos:0.3 %, Lactic Acid:1.0 mmol/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56 yo man with respiratory failure, ARDS [**3-2**] H1N1 influenza
   1. Respiratory Failure/ARDS: Remains on 6cc/kg TV.  PEEP of 18 based on
   esopgeal balloon measurements.  Getting vanc/Zosyn empirically.  D/C
   paralytics today.
   2. Influenza: peramivir x5 days.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2111-12-9**] 12:05 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2111-12-11 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2111-12-10**] 10:58 AM
   - Lab called to confirm, he has H1N1 (as opposed to just Influenza A)
   - taken off cistracurarium today and not overbreathing vent
   - Abdomen distended: stopped tube feeds although residual fine, KUB
   showed no ileus or obstruction, bladder pressure measured
   - episodes where desat and FiO2 has to be increased to 100%, and then
   does fine.
   - no bowel movement- rectal tube placed, has had bowel movements since
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-8**] 03:47 PM
   Levofloxacin - [**2111-12-8**] 07:30 PM
   Azithromycin - [**2111-12-10**] 09:12 PM
   Vancomycin - [**2111-12-11**] 01:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-11**] 05:43 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-10**] 08:53 AM
   Heparin Sodium (Prophylaxis) - [**2111-12-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-11**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 60 (59 - 88) bpm
   BP: 84/41(56) {84/41(56) - 134/66(90)} mmHg
   RR: 20 (4 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.2 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 13 (10 - 19)mmHg
   Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  2,483 mL
                                                                    690 mL
   PO:
   TF:
                                                                    200 mL
   IVF:
                                                                  2,223 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  1,048 mL
                                                                    151 mL
   Urine:
                                                                  1,048 mL
                                                                    151 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,435 mL
                                                                    539 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 270 (270 - 270) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   Compliance: 22.9 cmH2O/mL
   SpO2: 93%
   ABG: 7.35/46/86/24/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 143
   Physical Examination
   Gen:
   HEENT:
   CV:
   Lungs
   [**Last Name (un) 110**]:
   Extrem:
   Labs / Radiology
   336 K/uL
   9.8 g/dL
   118 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   25 mg/dL
   99 mEq/L
   128 mEq/L
   27.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2111-12-9**]  10:25 PM
                            [**2111-12-10**]  01:24 AM
                            [**2111-12-10**]  01:38 AM
                            [**2111-12-10**]  06:13 AM
                            [**2111-12-10**]  09:16 AM
                            [**2111-12-10**]  04:31 PM
                            [**2111-12-10**]  10:04 PM
                            [**2111-12-10**]  11:21 PM
                            [**2111-12-11**]  12:52 AM
                            [**2111-12-11**]  12:57 AM
   WBC
   8.2
   9.8
   Hct
   28.1
   27.3
   Plt
   237
   336
   Cr
   1.3
   1.6
   TCO2
   27
   28
   24
   27
   26
   25
   25
   26
   Glucose
   [**Telephone/Fax (3) 9941**]65
   144
   101
   154
   133
   129
   118
   Other labs: PT / PTT / INR:13.7/47.5/1.2, ALT / AST:30/45, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:94.3 %, Lymph:3.4 %, Mono:1.8 %,
   Eos:0.3 %, Lactic Acid:1.2 mmol/L, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.7 mg/dL
   Imaging: KUB: There is no evidence of small or large bowel obstruction.
   There
   is no evidence of gross free air; however, supine radiographs are very
   limited
   in evaluation for pneumoperitoneum.
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Pneumonia: Patient suspected to have severe influenza with ARDS and
   possible bacterial superinfection. Chest CT shows severe pneumonia, but
   no abscesses or effusions. Legionella Ag negative. Flu positive
   -Continue Vanco ([**6-5**]), Zosyn ([**6-5**]) and Azithromycin ([**6-2**]).
   -Sputum stain negative, but f/u cx
   - Plan is now to stop tamiflu and start IV peramivir for 5 days, for
   total 10 days of neuraminidase inhibitor.
   - While on peramivir will need daily ECG and skin checks to monitor for
   toxicity.
   -Day [**3-5**] of peramivir
   .
   # Respiratory failure: as above. Most likely etiology ARDS/sepsis vs
   PNA. p/F<200 ARDS. Patient had BNP done at outside hospital which was
   normal, making CHF less likely. Ventillation per ARDS net protocol with
   PEEP adjusted by esophageal balloon to allow for optimal intrathoracic
   pressures.
   -Daily CXR
   -Esophageal balloon remains in place
   -Will wean PEEP as possible
   .
   #Abdominal Pain: His abdomen is increasingly distended and limiting his
   respirations.  Per patient's father, patient having abdominal pain for
   1-2 days which was being treated with heating pad with some improvement
   and some diarrhea prior to admission. CT abdomen [**12-7**] did not show any
   obstruction and C. diff is negative.  LFT
s were elevated but then
   normalized.  Now trending up slightly, small bump so will trend
   tomorrow
   -LFTs tomorrow
   -Rectal tube to decompress
   - Bowel regimen .
   #Hyponatremia: Patient edematous on exam.  [**Month (only) 8**] have renal failure in
   the setting of acute illness, but given that he is in ADRS will not
   give fluids.
   -Urine osm, urine electrolytes to further assess
   -monitor PM electrolytes
   #Renal failure: Patient has had slowly rising BUN and creatinine. [**Month (only) 8**]
   be ATN in setting of acute illness. Also could be related to peramavir,
   will check urine eosinophils to assess for this. Weaning of PEEP may
   improve hypotension and allow for greater blood flow to kidneys
   improving renal failure.
   -Check urine osm, urine electrolytes
   -D/c lasix.
   -Check and renally dose all medications
   -Urine eosinophils
   .
   # Hypotension: Patient on pressors. Hypotension may be related to
   propofol.
   -Stop propofol, will restart fentanyl and versed for sedation
   .
   #Acidosis; Patient has a normal lactate, decreased bicarb.  Patient
   seems to have chronically elevated CO2 which may be contributing with a
   respiratory acidosis.
   - Continue to bolus with bicarb if continues to have non-gap acidosis
   in setting of diarrhea
   - Serial ABG
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #DM II: Insulin s/s as patient currently NPO
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes,  restart tube feeds cautiously
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-11 11:43:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2111-12-10**] 10:58 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-8**] 03:47 PM
   Levofloxacin - [**2111-12-8**] 07:30 PM
   Azithromycin - [**2111-12-10**] 09:12 PM
   Vancomycin - [**2111-12-11**] 01:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-11**] 05:43 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Fentanyl - 175 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-11**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-12-11**] 09:12 AM
   Other medications:
   SQI, fentanyl gtt, levophed gtt, CHG, Zosyn q8, synthroid, propofol
   gtt, H2B, SQH, azithro, peramivir, vancomycin 1g q24, bowel reg, tobra
   eye gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-11**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 57 (57 - 77) bpm
   BP: 101/47(65) {73/36(49) - 130/54(80)} mmHg
   RR: 21 (4 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.2 kg (admission): 74.8 kg
   Height: 58 Inch
   CVP: 15 (9 - 19)mmHg
   Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  2,483 mL
                                                                    957 mL
   PO:
   TF:
                                                                    200 mL
   IVF:
                                                                  2,223 mL
                                                                    957 mL
   Blood products:
   Total out:
                                                                  1,048 mL
                                                                    260 mL
   Urine:
                                                                  1,048 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,435 mL
                                                                    697 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 270 (270 - 270) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   SpO2: 95%
   ABG: 7.34/47/99.[**Numeric Identifier **]/24/0
   Ve: 7.6 L/min
   PaO2 / FiO2: 167
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   336 K/uL
   118 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   25 mg/dL
   99 mEq/L
   128 mEq/L
   27.3 %
   9.8 K/uL
        [image002.jpg]
                            [**2111-12-10**]  01:24 AM
                            [**2111-12-10**]  01:38 AM
                            [**2111-12-10**]  06:13 AM
                            [**2111-12-10**]  09:16 AM
                            [**2111-12-10**]  04:31 PM
                            [**2111-12-10**]  10:04 PM
                            [**2111-12-10**]  11:21 PM
                            [**2111-12-11**]  12:52 AM
                            [**2111-12-11**]  12:57 AM
                            [**2111-12-11**]  11:05 AM
   WBC
   8.2
   9.8
   Hct
   28.1
   27.3
   Plt
   237
   336
   Cr
   1.3
   1.6
   TCO2
   28
   24
   27
   26
   25
   25
   26
   26
   Glucose
   [**Telephone/Fax (3) **]44
   101
   154
   133
   129
   118
   Other labs: PT / PTT / INR:13.7/47.5/1.2, ALT / AST:30/45, Alk Phos / T
   Bili:81/1.0, Differential-Neuts:94.3 %, Lymph:3.4 %, Mono:1.8 %,
   Eos:0.3 %, Lactic Acid:1.2 mmol/L, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   56-year-old man with
          Influenza (novel [**2111**]-H1N1)
          ARDS (severe hypoxemic respiratory failure)
          [**Year (4 digits) 1531**]
          Acute renal failure
          Hyponatremia
   We will continue peramivir and follow exam, EKG, and labs.  In
   particular, will follow hyponatremia.
   For [**Last Name (LF) **], [**First Name3 (LF) 124**] try to convert propofol to BZD.  Avoid fluid challenge
   given severe hypoxemic ARDS.
   For ARF, renally adjust meds including peramivir.  Check lytes, UA, and
   urine eos.
   Continue antibiotics for 8 day course.  D/C azithro after today.
   Will wean FiO2 to 0.5.  If able, decrease PEEP by 2 today.
   ICU Care
   Nutrition: begin TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   Seen several times throughout they day.  Tolerated wean of FiO2 to 0.5,
   so decreased PEEP to 16 and tolerating.  Successful transition of
   propofol to midazolam.  Subsequently, able to discontinue levophed.
   Oliguria, however, persists at ~20cc/hour.  Challenging situation given
   severe hypoxemic ARDS, CVP 18, etc.  However, since we have made
   progress on his oxygenation status, will trial fluid bolus to see if
   improves oliguria.  If oliguria continues and creatinine increases,
   would evaluate whether to continue or hold peramivir.
   Critically ill.  40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2111-12-11**] 19:20 ------

2111-12-12 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: severe influenza/ARDS, now oliguria
   24 Hour Events:
   - Cr elevated this am and UOP dropping off around 3am, gave another
   500cc NS bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2111-12-10**] 09:12 PM
   Vancomycin - [**2111-12-11**] 01:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-12**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-11**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-12**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 87 (57 - 89) bpm
   BP: 121/66(84) {73/36(49) - 144/66(91)} mmHg
   RR: 19 (5 - 33) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.2 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 24 (9 - 24)mmHg
   Total In:
                                                                  2,081 mL
                                                                    214 mL
   PO:
   TF:
   IVF:
                                                                  2,081 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                     93 mL
   Urine:
                                                                    560 mL
                                                                     93 mL
   NG:
   Stool:
   Drains:
   Balance:
   LOS +8.5L
                                                                  1,521 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 270 (270 - 270) mL
   RR (Set): 26
   RR (Spontaneous): 6
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 26 cmH2O
   SpO2: 91%
   ABG: 7.40/39/85.[**Numeric Identifier 299**]/22/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   385 K/uL
   8.9 g/dL
   77 mg/dL
   2.1 mg/dL
   22 mEq/L
   4.1 mEq/L
   34 mg/dL
   100 mEq/L
   133 mEq/L
   25.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2111-12-10**]  11:21 PM
                            [**2111-12-11**]  12:52 AM
                            [**2111-12-11**]  12:57 AM
                            [**2111-12-11**]  11:05 AM
                            [**2111-12-11**]  12:12 PM
                            [**2111-12-11**]  01:20 PM
                            [**2111-12-11**]  03:43 PM
                            [**2111-12-11**]  06:20 PM
                            [**2111-12-12**]  02:03 AM
                            [**2111-12-12**]  02:34 AM
   WBC
   9.8
   8.1
   Hct
   27.3
   25.9
   Plt
   336
   385
   Cr
   1.6
   1.7
   2.1
   TCO2
   25
   26
   26
   25
   25
   25
   25
   Glucose
   133
   129
   118
   91
   82
   77
   Other labs: PT / PTT / INR:13.7/47.5/1.2, ALT / AST:30/52, Alk Phos / T
   Bili:89/1.2, Amylase / Lipase:34/10, Differential-Neuts:94.3 %,
   Lymph:3.4 %, Mono:1.8 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.9 mg/dL, PO4:5.3 mg/dL
   Imaging: [**12-11**] CXR: Stable appearance of the bilateral airspace
   opacities and small pleural effusions with no pneumothorax.
   [**12-12**] CXR:Slight improvement on right.
   Micro: sputum cx x2: rare growth commensal flora
   Assessment and Plan
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Rash: He has a new macular-papular rash over his trunk, thighs and
   left arm.  Main differential is drug rash vs viral exanthema.  It seems
   unlikely that he would have a second viral infection and he is on
   several drugs that could potentially cause this exanthem.  The most
   likely cause at this point is the Zosyn, so we will switch to
   Ciprofloxacin for gram negative coverage.  We will continue peramivir
   for this time, but could stop it early if the rash worsens.
   - Switch Zosyn to cipro.  Continue Vanco and Peramivir.
   - Check LFTs and CBC w/ diff for possible DRESS.
   - No steroids at this time.
   # Pneumonia: Patient suspected to have severe influenza with ARDS and
   possible bacterial superinfection. Chest CT shows severe pneumonia, but
   no abscesses or effusions. Flu positive, sputum cultures all negative.
   -Continue Vanco ([**8-5**]).  Because of rash switched to cipro for last two
   days.  Completed 5 days azithromycin.
   -Sputum cultures negative
   - Day [**4-2**] of peramivir.
   - While on peramivir will need daily ECG and skin checks to monitor for
   toxicity.
   .
   # Respiratory failure: Most likely etiology ARDS/sepsis vs PNA. p/F<200
   ARDS. Patient very desynchronous with the vent this morning despite
   very high levels of sedation.  We will re-paralyze for now with plan to
   re-evaluate on a daily basis as his respiratory status improves.
   - Restart cisatracuronium w/ bolus, then basal dose.
   - Daily CXR
   -Will wean PEEP as possible
   .
   #Renal failure: Patient has had decreasing urine output and increasing
   creatinine.  Fear ATN despite FENa yesterday of 0.2% suggesting
   primarily prerenal etiology.  Urine eos negative, making AIN less
   likely, though still possible.
   - consult renal
   - consider echo to evaluate cause of poor forward flow despite being
   many liters positive.
   - Re-check urine osm, urine electrolytes
   -D/c lasix for now.
   -Check and renally dose all medications
   .
   #Abdominal Pain: His abdomen is increasingly distended and limiting his
   respirations.  Per patient's father, patient having abdominal pain for
   1-2 days which was being treated with heating pad with some improvement
   and some diarrhea prior to admission. CT abdomen [**12-7**] did not show any
   obstruction and C. diff is negative.  LFT
s were elevated but then
   normalized.  Now trending up slightly, small bump so will trend
   tomorrow
   -LFTs tomorrow
   -Rectal tube to decompress
   - Bowel regimen .
   #Hyponatremia: Patient edematous on exam.  [**Month (only) 8**] have renal failure in
   the setting of acute illness, but given that he is in ADRS will not
   give fluids.
   -Urine osm, urine electrolytes to further assess
   -monitor PM electrolytes
   # Hypotension: Patient on pressors. Hypotension may be related to
   propofol.
   -Stop propofol, will restart fentanyl and versed for sedation
   .
   #Acidosis; Patient has a normal lactate, decreased bicarb.  Patient
   seems to have chronically elevated CO2 which may be contributing with a
   respiratory acidosis.
   - Continue to bolus with bicarb if continues to have non-gap acidosis
   in setting of diarrhea
   - Serial ABG
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #DM II: Insulin s/s as patient currently NPO
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes,  restart tube feeds cautiously
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-13 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS and oliguria
   24 Hour Events:
 BLOOD CULTURED - At [**2111-12-12**] 11:15 AM
   Central and Venipuncture
 EKG - At [**2111-12-12**] 12:50 PM
 EKG - At [**2111-12-12**] 08:54 PM
   - Cr elevated yesterday am and UOP dropping off around 3am, gave
   another 500cc NS bolus
   - Pt very desynchronous with vent and taking tidal volumes up to
   500ccs.  Decided to re-paralyze for now to keep tidal volumes low,
   prevent lung injury.
   - Spoke with parents.  Told them ARDS recovery can be long and slow.
   That at some point we may need to talk to them about tracheostomy and
   PEG tube placement.  That we were consulting renal.
   - Renal: urine sediment w/ brown and fine granular casts, no dysmorphic
   RBCs.  Recommend: wean antibiotics as possible, repeat urine lytes,
   Ueos, CBC w/ diff, do echo.  Expect Cr to rise before improving, no
   need for urgent HD.
   - Paralysis didn't happen until around 6pm -> next gas had higher pCO2
   and improved pO2. Went up on tidal volume to 300, improved pCO2 so no
   further changes.
   - w/ paralysis had tachycardia and decreased UOP. Gave 500cc bolus w/
   improvement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2111-12-10**] 09:12 PM
   Vancomycin - [**2111-12-11**] 01:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-12**] 08:51 AM
   Infusions:
   Cisatracurium - 0.08 mg/Kg/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2111-12-12**] 01:55 PM
   Cisatracurium - [**2111-12-12**] 05:57 PM
   Famotidine (Pepcid) - [**2111-12-12**] 08:25 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-12**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-13**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 93 (87 - 121) bpm
   BP: 112/60(77) {96/48(66) - 120/67(83)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.2 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 21 (10 - 25)mmHg
   Total In:
                                                                  1,790 mL
                                                                    387 mL
   PO:
   TF:
                                                                    310 mL
                                                                    190 mL
   IVF:
                                                                  1,335 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    179 mL
   Urine:
                                                                    380 mL
                                                                    104 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,160 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (270 - 300) mL
   Vt (Spontaneous): 249 (249 - 460) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   SpO2: 91%
   ABG: 7.23/50/86/20/-6
   Ve: 7.6 L/min
   PaO2 / FiO2: 143
   Physical Examination
   Lying in bed intubated and paralyzed.  Right eye clouded, left eye
   pupil pinpoint and minimally reactive.  Diffuse, blanching,
   maculopapular rash over trunk, left arm and upper legs appears stable
   or slightly improved from yesterday.  Anterior lung exam clear.  RRR w/
   no m/r/g.  Abdomen moderately distended w/ hypoactive bowel sounds.
   Labs / Radiology
   391 K/uL
   8.6 g/dL
   163 mg/dL
   2.7 mg/dL
   20 mEq/L
   5.0 mEq/L
   46 mg/dL
   101 mEq/L
   132 mEq/L
   25.5 %
   9.0 K/uL
        [image002.jpg]
                            [**2111-12-12**]  02:03 AM
                            [**2111-12-12**]  02:34 AM
                            [**2111-12-12**]  09:38 AM
                            [**2111-12-12**]  12:58 PM
                            [**2111-12-12**]  04:07 PM
                            [**2111-12-12**]  05:11 PM
                            [**2111-12-12**]  08:51 PM
                            [**2111-12-12**]  10:57 PM
                            [**2111-12-13**]  02:05 AM
                            [**2111-12-13**]  02:16 AM
   WBC
   8.1
   9.0
   Hct
   25.9
   25.5
   Plt
   385
   391
   Cr
   2.1
   2.3
   2.7
   TCO2
   25
   21
   21
   21
   21
   22
   Glucose
   77
   58
   59
   108
   97
   130
   163
   Other labs: PT / PTT / INR:12.0/55.4/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:87.4 %,
   Lymph:6.6 %, Mono:5.4 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Ca++:8.2
   mg/dL, Mg++:3.3 mg/dL, PO4:7.8 mg/dL
   Imaging: CXR [**12-13**]: unchanged
   CXR [**12-12**]: no appreciable change
   Microbiology: Blood cx: pending
   Assessment and Plan
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Respiratory failure: Most likely etiology ARDS/sepsis vs PNA. p/F<200
   ARDS. Patient re-paralyzed yesterday to allow for lower tidal volumes.
   His gas this morning suggests that with his renal failure, he now has a
   concurrent metabolic acidosis which makes it more difficult for us to
   maintain low tidal volumes.  Because of his high plateau pressures, we
   will come back down on his tidal volumes to 270 and increase his RR to
   28.  If this is well tolerated we can attempt to come down on his PEEP
   as tolerated.
   - Continue cisatriconium until tomorrow morning at least, then wean and
   reassess need for paralysis.
   - Daily CXR
   - Will wean PEEP as possible
   - Try to keep him fluid even w/ lasix to prevent further fluid in
   lungs.
   .
   # Pneumonia: Patient suspected to have severe influenza with ARDS and
   possible bacterial superinfection. Chest CT shows severe pneumonia, but
   no abscesses or effusions. Flu positive, sputum cultures all negative.
   -Continue Vanco and Cipro (today day [**8-5**]).  Completed 5 days
   azithromycin.  Would prefer to not restart azithro as he has completed
   course and has this new rash.  Plan is still to stop antibiotics
   tomorrow despite low-grade fevers.
   -Sputum cultures all negative, flu positive.
   - Day [**5-3**] of peramivir.
   - While on peramivir will need daily ECG and skin checks to monitor for
   toxicity.
   - f/u ID recs.
   .
   #Renal failure: Has muddy casts on urine sediment per renal, seems to
   have component of ATN.  AIN seems less likely w/ negative eos times
   two.  Patient has had decreasing urine output and increasing
   creatinine.
   - echo tomorrow am for possible cardiac source of poor forward flow.
   - renal ultrasound to rule out obstructive cause.
   - f/u renal recs.
   - Lasix 40mg IV as above.
   -Check and renally dose all medications
   - Start calcium acetate given rising phos and drop in calcium.
   - Switch to renal tube feeds.
   - Monitor potassium w/ [**Hospital1 **] lytes.
   .
   # Rash: He has three days now of a macular-papular rash over his trunk,
   thighs and left arm which does not appear to be progressing.  Main
   differential is drug rash vs viral exanthema.  It seems unlikely that
   he would have a second viral infection and he is on several drugs that
   could potentially cause this exanthem. No significant eosinophils on
   diff.
   - No steroids at this time.
   - Continue to monitor.
   #Abdominal Pain: Seems to have poor motility with paralysis that leads
   to increasing bowel distention.  Will continue gentle tube feeds.
   - Bowel regimen.
   #Hyponatremia: Stable.  If hyponatremia becomes worse can attempt to
   fluid restrict, but not a problem for the time being.
   # Hypotension: Patient has been weaned off pressors, now with mild
   hypotension.  Currently stable.
   .
   #Acidosis; Patient has a normal lactate, stably decreased bicarb.
   Unclear why, will continue to trend.
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #DM II: Insulin sliding scale
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes,  renal tube feeds monitoring
   residuals while paralyzed.
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events: Reparalyzed.  TV increased d/t pH < 7.2.  Seen by renal team,
   remains oliguric.
   VS notable for: T1001.1, SBP 112-120, MAPs >80
   TV300x26(0)/18/50%.  P-Plats ~36.
   I/O +1.1L  yesterday.
   On exam:  Rash stable / improved.  Otherwise unchanged, as above.
   Labs notable for Cr now up to 2.7, K 5.0.
   CXR unchanged.
   Meds notable for versed, fentanyl, nimbex gtts; peramavir, d7/8 Cipro /
   Vanc
   Agree with plan to maintain paralysis. Will try to decrease TV again as
   PPlats are high, increase RR as tolerated, may want to support with
   bicarb if needed.  Will try titrating down peep as able.
   Renal failure with volume overload, also impairing respiratory status
   will try lasix to keep at least even, though ideally would like to
   diurese.  Appreciate renal recs.
   Remainder of plan as outlined above.
   Patient is critically ill.  Total time: 45 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 244**], MD
   on:[**2111-12-13**] 18:07 ------

2111-12-14 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
 EKG - At [**2111-12-13**] 09:35 AM
 ULTRASOUND - At [**2111-12-13**] 11:09 AM  Renal US
 EKG - At [**2111-12-14**] 03:56 AM
   -Restarted glargine d/t high BS
   -becoming increasing hypertensive and tachycardic over the morning
   -putting out stool
   -urine output continued to be low, but above 10
   -nurse [**First Name (Titles) 9983**] [**Last Name (Titles) 8116**] patient on home inhalers (list in back of
   chart).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-12**] 08:51 AM
   Vancomycin - [**2111-12-13**] 08:48 AM
   Ciprofloxacin - [**2111-12-13**] 10:29 AM
   Azithromycin - [**2111-12-13**] 06:03 PM
   Infusions:
   Cisatracurium - 0.06 mg/Kg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-13**] 10:15 AM
   Famotidine (Pepcid) - [**2111-12-13**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-13**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-14**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 102 (93 - 108) bpm
   BP: 160/75(103) {104/47(67) - 160/77(103)} mmHg
   RR: 24 (15 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.2 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 27 (16 - 28)mmHg
   Total In:
                                                                  2,455 mL
                                                                    328 mL
   PO:
   TF:
                                                                    720 mL
                                                                    206 mL
   IVF:
                                                                  1,495 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    639 mL
                                                                    290 mL
   Urine:
                                                                    464 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,816 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (270 - 300) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 70%
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   SpO2: 93%
   ABG: 7.26/51/152/21/-4
   Ve: 7.6 L/min
   PaO2 / FiO2: 217
   Physical Examination
   Lying in bed intubated and paralyzed.  Right eye clouded, left eye
   pupil 2 to 1mm w/ light.  Diffuse, blanching, maculopapular rash over
   trunk, left arm and upper legs appears stable or slightly improved from
   yesterday.  Anterior lung exam clear.  RRR w/ no m/r/g.  Abdomen
   moderately distended w/ hypoactive bowel sounds.
   Labs / Radiology
   432 K/uL
   8.9 g/dL
   240 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.7 mEq/L
   55 mg/dL
   100 mEq/L
   131 mEq/L
   26.3 %
   8.7 K/uL
        [image002.jpg]
                            [**2111-12-13**]  07:54 AM
                            [**2111-12-13**]  11:07 AM
                            [**2111-12-13**]  01:04 PM
                            [**2111-12-13**]  03:01 PM
                            [**2111-12-13**]  03:16 PM
                            [**2111-12-13**]  05:47 PM
                            [**2111-12-13**]  10:19 PM
                            [**2111-12-14**]  01:45 AM
                            [**2111-12-14**]  02:00 AM
                            [**2111-12-14**]  06:28 AM
   WBC
   8.7
   Hct
   26.3
   Plt
   432
   Cr
   2.7
   2.6
   TCO2
   22
   22
   22
   23
   21
   22
   25
   24
   Glucose
   146
   182
   241
   [**Telephone/Fax (3) 9984**]
   254
   240
   Other labs: PT / PTT / INR:12.0/55.4/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:87.4 %,
   Lymph:6.6 %, Mono:5.4 %, Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.3
   g/dL, Ca++:8.4 mg/dL, Mg++:3.3 mg/dL, PO4:6.1 mg/dL
   Imaging: Renal U/S:
   1. No evidence of hydronephrosis.
   2. Incomplete evaluation of left kidney due to unusual orientation.
   [**12-12**] CXR: diffuse airspace opacities
   throughout both lung fields, which are unchanged. There is worsening of
   consolidation at the left base since the prior study.
   [**12-13**]:Different rotation. tubes and lines in place.
   Microbiology: [**12-12**] Blood Cx: Pending
   Assessment and Plan
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Respiratory failure: Most likely etiology ARDS/sepsis vs PNA. p/F<200
   ARDS. Patient re-paralyzed yesterday to allow for lower tidal volumes.
   His gas this morning suggests that with his renal failure, he now has a
   concurrent metabolic acidosis which makes it more difficult for us to
   maintain low tidal volumes.  Because of his high plateau pressures, we
   will come back down on his tidal volumes to 270 and increase his RR to
   28.  If this is well tolerated we can attempt to come down on his PEEP
   as tolerated.
   - Continue cisatriconium until tomorrow morning at least, then wean and
   reassess need for paralysis.
   - Daily CXR
   - Will wean PEEP as possible
   - Try to keep him fluid even w/ lasix to prevent further fluid in
   lungs.
   .
   # Pneumonia: Patient suspected to have severe influenza with ARDS and
   possible bacterial superinfection. Chest CT shows severe pneumonia, but
   no abscesses or effusions. Flu positive, sputum cultures all negative.
   -Continue Vanco and Cipro (today day [**8-5**]).  Completed 5 days
   azithromycin.  Would prefer to not restart azithro as he has completed
   course and has this new rash.  Plan is still to stop antibiotics
   tomorrow despite low-grade fevers.
   -Sputum cultures all negative, flu positive.
   - Day [**5-3**] of peramivir.
   - While on peramivir will need daily ECG and skin checks to monitor for
   toxicity.
   - f/u ID recs.
   .
   #Renal failure: Has muddy casts on urine sediment per renal, seems to
   have component of ATN.  AIN seems less likely w/ negative eos times
   two.  Patient has had decreasing urine output and increasing
   creatinine.
   - echo tomorrow am for possible cardiac source of poor forward flow.
   - renal ultrasound to rule out obstructive cause.
   - f/u renal recs.
   - Lasix 40mg IV as above.
   -Check and renally dose all medications
   - Start calcium acetate given rising phos and drop in calcium.
   - Switch to renal tube feeds.
   - Monitor potassium w/ [**Hospital1 **] lytes.
   .
   # Rash: He has three days now of a macular-papular rash over his trunk,
   thighs and left arm which does not appear to be progressing.  Main
   differential is drug rash vs viral exanthema.  It seems unlikely that
   he would have a second viral infection and he is on several drugs that
   could potentially cause this exanthem. No significant eosinophils on
   diff.
   - No steroids at this time.
   - Continue to monitor.
   #Abdominal Pain: Seems to have poor motility with paralysis that leads
   to increasing bowel distention.  Will continue gentle tube feeds.
   - Bowel regimen.
   #Hyponatremia: Stable.  If hyponatremia becomes worse can attempt to
   fluid restrict, but not a problem for the time being.
   # Hypotension: Patient has been weaned off pressors, now with mild
   hypotension.  Currently stable.
   .
   #Acidosis; Patient has a normal lactate, stably decreased bicarb.
   Unclear why, will continue to trend.
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #DM II: Insulin sliding scale
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes,  renal tube feeds monitoring
   residuals while paralyzed.
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-14**] 03:06 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-15 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2111-12-14**] 10:59 AM
 INVASIVE VENTILATION - STOP [**2111-12-14**] 11:00 AM
 TRANSTHORACIC ECHO - At [**2111-12-14**] 02:51 PM
   - Kept on paralytics.
   - Continue Peramivir for total 10d course
   - Started insulin gtt with increasing requirements through evening,
   BS's in the 300's
   - Got 40mg IV Lasix at 2pm, 40 more at 8pm. Good UOP but only negative
   800cc's for the day.
   - renal recs: No indication for HD now. Close monitor UOP, BUN/Cr.
   Check vanc trough (had one [**12-13**] within normal limits). Can continue
   with Lasix to remove volume.
   - ID recs: Continue peramivir, continue broad spectrums, would resume
   Azithro, 2 more BCx's
   - Started inhalers
   - Sputum Cx gathered, BCx x2 (last ones [**12-12**])
   - Family mtg
   - Echo: Poor quality. The coronary sinus appears mildly dilated. LV
   wall thickness normal. Focal wall motion abnormality cannot be fully
   excluded. (LVEF 50-55%). Pulmonary artery systolic pressure could not
   be determined. There is a trivial/physiologic pericardial effusion. All
   else normal.
   - 4pm lytes: Na improved 131 --> 133, HCO3 improved 21 --> 25, Cr
   improved 2.6 --> 2.2
   - 4pm ABG: 7.27/51/79/24
   - HR rising.
   - 930p noted to lose Vt when turned to L. ETT noted to be at 25cm (goal
   is 21cm) so pulled back to 23cm and CXR re-shot --> ETT in good
   position (my read)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-12**] 08:51 AM
   Vancomycin - [**2111-12-13**] 08:48 AM
   Azithromycin - [**2111-12-13**] 06:03 PM
   Ciprofloxacin - [**2111-12-14**] 09:59 AM
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Cisatracurium - 0.08 mg/Kg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Insulin - Regular - 12 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-14**] 07:49 AM
   Furosemide (Lasix) - [**2111-12-14**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-15**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 114 (101 - 115) bpm
   BP: 112/53(70) {106/47(65) - 162/77(105)} mmHg
   RR: 29 (15 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.1 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 16 (15 - 34)mmHg
   Total In:
                                                                  1,718 mL
                                                                    473 mL
   PO:
   TF:
                                                                    682 mL
                                                                    164 mL
   IVF:
                                                                    977 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    660 mL
   Urine:
                                                                  2,555 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -837 mL
                                                                   -187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   SpO2: 91%
   ABG: 7.28/55/80.[**Numeric Identifier 20**]/26/-1
   Ve: 8.4 L/min
   PaO2 / FiO2: 114
   Physical Examination
   Gen: patient is intubated & sedated
   HEENT: right eye cornea cloudy (unchanged) left eye pinpoint pupil
   CV: RRR, no M/R/G
   Lungs: vented breath sounds b/l, decreased at bases
   [**Last Name (un) 110**]: significantly decreased bowel sounds, slightly distended, soft
   Extrem: trace edema
   Skin: rash on abdomen, b/l lower extremities, left arm, appears
   slightly less erythematous
   Labs / Radiology
   552 K/uL
   8.8 g/dL
   196 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.6 mEq/L
   54 mg/dL
   104 mEq/L
   136 mEq/L
   26.7 %
   8.7 K/uL
        [image002.jpg]
                            [**2111-12-13**]  05:47 PM
                            [**2111-12-13**]  10:19 PM
                            [**2111-12-14**]  01:45 AM
                            [**2111-12-14**]  02:00 AM
                            [**2111-12-14**]  06:28 AM
                            [**2111-12-14**]  07:37 AM
                            [**2111-12-14**]  04:10 PM
                            [**2111-12-14**]  04:34 PM
                            [**2111-12-15**]  01:50 AM
                            [**2111-12-15**]  02:18 AM
   WBC
   8.7
   8.7
   Hct
   26.3
   26.7
   Plt
   432
   552
   Cr
   2.6
   2.2
   2.0
   TCO2
   21
   22
   25
   24
   24
   24
   27
   Glucose
   227
   268
   254
   [**Telephone/Fax (3) 9994**]
   196
   Other labs: PT / PTT / INR:12.0/54.8/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:87.4 %,
   Lymph:6.6 %, Mono:5.4 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.3
   g/dL, Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR: interval slight improvement?
   Microbiology: budding yeast on gram stain of sputum; no growth to date
   on blood cultures
   Assessment and Plan
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Respiratory failure:  Cause of respiratory failure most likely
   ARDS/sepsis vs PNA. p/F<200 consistent w/ ARDS. Patient re-paralyzed
   Saturday to allow for lower tidal volumes.  He continues to have high
   peak pressures and to pull large volumes when paralysis is lowered, so
   we will keep him paralyzed for now. FiO2 able to be lowered slightly
   overnight to 60%, then needed to go back up to 70%. Will wean down
   today tolerating lower FiO2. Inhalers did not improve peak pressures,
   so will d/c as patient has been tachycardic, albuterol may be
   contributing
   - Continue cisatriconium until tomorrow to allow for further
   improvement of ARDS prior to d/c of paralysis
   - Daily CXR
   - Will wean PEEP as possible
 from 18
16 today, see how he tolerates
   - fluid overload likely contributing.  Able to make -800 mL yesterday.
   Goal negative 2L today
   -Start Lasix gtt
   -Consult thoracic surgery, once wean PEEP will need trach and PEG
   .
   # Pneumonia: Patient has severe influenza with ARDS and possible
   bacterial superinfection.  He has completed his courses of antibiotics,
   and cultures have been negative besides influenza virus.  However,
   given the severity of his illness we will continue broad spectrum
   antibiotics for a total 14 day course.
   -Continue Vanco x14 days, Azithro 10 day course per ID
   -ID requesting change from cipro for GN coverage, suggested cefepime,
   will ask for aztreonam instead given previous rash with beta lactam
   - Continue peramivir for total 10 days as patient not improving (done
   [**12-22**])
   - While on peramivir will need daily ECG and skin checks to monitor for
   toxicity.
   - f/u ID recs.
   .
   #Renal failure: Urine output has improved today.  Has muddy casts on
   urine sediment per renal, seems to have component of ATN.  AIN seems
   less likely w/ negative eos times two.  Renal ultrasound negative for
   obstruction.
   - f/u renal recs.
   - Lasix gtt.  Goal 2L negative today.
   - [**Hospital1 **] lytes while being diuresed.
   - Continue to renally dose all medications
   - Phosphate levels improving with calcium acetate.
   -recheck vancomycin level
   .
   # Rash: Rash seems to be improving now that zosyn switched to cipro.
   No signs of DRESS.
   - Continue to monitor.
   #Abdominal Pain: Seems to have poor motility with paralysis that leads
   to increasing bowel distention.  Will continue gentle tube feeds.
   - Bowel regimen.
   .
   #Acidosis; Patient has a normal lactate, stably decreased bicarb.
   Bicarb has normalized with diuresis.
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #DM II: Insulin sliding scale
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.  Will discuss
   with nutrition if can change from renal tube feeds to pulmonary tube
   feeds
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-14**] 08:25 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-15 13:11:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: influenza --> ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2111-12-14**] 10:59 AM
 INVASIVE VENTILATION - STOP [**2111-12-14**] 11:00 AM
 TRANSTHORACIC ECHO - At [**2111-12-14**] 02:51 PM
   FiO2 up, then able wean.
   Family discussion.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2111-12-13**] 06:03 PM
   Vancomycin - [**2111-12-15**] 08:03 AM
   Ciprofloxacin - [**2111-12-15**] 10:20 AM
   Infusions:
   Cisatracurium - 0.08 mg/Kg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Insulin - Regular - 5.5 units/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-14**] 08:30 PM
   Other medications:
   midaz, fent, vanco, tobra eye gtt, SQH, synthroid, CHG, cisatra, cipro,
   azithro, MDIs, peramivir, SQI, H2B
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-15**] 01:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 114 (104 - 120) bpm
   BP: 95/51(65) {95/47(65) - 161/76(105)} mmHg
   RR: 30 (20 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.1 kg (admission): 74.8 kg
   Height: 58 Inch
   CVP: 16 (15 - 23)mmHg
   Total In:
                                                                  1,718 mL
                                                                  1,237 mL
   PO:
   TF:
                                                                    682 mL
                                                                    319 mL
   IVF:
                                                                    977 mL
                                                                    919 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    940 mL
   Urine:
                                                                  2,555 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -837 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   SpO2: 99%
   ABG: 7.33/48/72/26/-1
   Ve: 8.2 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Rash:
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   8.8 g/dL
   552 K/uL
   138 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   54 mg/dL
   104 mEq/L
   135 mEq/L
   26.7 %
   8.7 K/uL
        [image002.jpg]
                            [**2111-12-14**]  01:45 AM
                            [**2111-12-14**]  02:00 AM
                            [**2111-12-14**]  06:28 AM
                            [**2111-12-14**]  07:37 AM
                            [**2111-12-14**]  04:10 PM
                            [**2111-12-14**]  04:34 PM
                            [**2111-12-15**]  01:50 AM
                            [**2111-12-15**]  02:18 AM
                            [**2111-12-15**]  09:33 AM
                            [**2111-12-15**]  11:20 AM
   WBC
   8.7
   8.7
   Hct
   26.3
   26.7
   Plt
   432
   552
   Cr
   2.6
   2.2
   2.0
   TCO2
   25
   24
   24
   24
   27
   29
   26
   Glucose
   [**Telephone/Fax (3) 9998**]8
   Other labs: PT / PTT / INR:12.0/54.8/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:87.4 %,
   Lymph:6.6 %, Mono:5.4 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.3
   g/dL, Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR similar to prior
   ECG: EKG with ST with PACs vs. MAT, no r wave progression (similar to
   prior)
   Assessment and Plan
   56-year-old man with
          Influenza (novel [**2111**]-H1N1)
          ARDS (severe hypoxemic respiratory failure)
          Acute renal failure
          Shock
 now resolved
          Rash
 improving
          Hyponatremia
          Hyperglycemia / diabetes
          Tachycardia
   We will plan
   -          Sedate fully and continue paralysis today since we are just
   beginning to see improvement
   -          review antibiotics with ID.  Favor aztreonam or meropenem if
   extended GNR coverage recommended, given rash that may have been
   related to zosyn.  continue broad spectrum antibiotics for now
   -          favor continuing peramivir for 10d course
   -          ask nutrition about converting tube feeds to pulmonary
   -          aggressive diuresis today
   -          follow tachycardia for now
 appears atrial (not fib).
   Likely MAT.  Trial of rate control.
   Other issues as per ICU team note today.  Critically ill: 40 min
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-14**] 08:25 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING
   Met with parents and family friends to review case.  All issues
   reviewed, including his critical status, as well as expectation that if
   he continues to improve he will require tracheostomy and G tube.  They
   wish to proceed.  Will consult thoracic surgery.
   35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2111-12-15**] 01:58 PM ------

2111-12-16 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - consult surgery for trach placement->didn't happen early enough, will
   get done first thing in AM.
   - ID agreed w/ aztreonam instead of cefepime or meropenem for gram
   negative coverage.
   - patient not at goal UOP, but initially limited by hypotension.
   - tolerated PEEP of 16 very well.  Tried 15, but patient's pO2 worsened
   at 9pm, so we went back to 16.
   - patient remained tachycardic.  Tolerated 5mg IV lopressor, so started
   12.5mg  PO BID.
   - at 2 am got turned onto right side, desated to 85-86%, improved with
   100% O2 and turning onto left side, worried that [**Last Name (LF) 10004**], [**First Name3 (LF) **] FiO2
   only brought down to 70%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-15**] 08:03 AM
   Ciprofloxacin - [**2111-12-15**] 10:20 AM
   Azithromycin - [**2111-12-15**] 05:37 PM
   Aztreonam - [**2111-12-16**] 02:00 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Furosemide (Lasix) - 3 mg/hour
   Cisatracurium - 0.08 mg/Kg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Metoprolol - [**2111-12-15**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-15**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-16**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.1
C (98.7
   HR: 102 (86 - 120) bpm
   BP: 140/66(93) {95/51(65) - 171/84(113)} mmHg
   RR: 25 (0 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.1 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 24 (14 - 24)mmHg
   Total In:
                                                                  2,325 mL
                                                                    561 mL
   PO:
   TF:
                                                                    600 mL
                                                                    183 mL
   IVF:
                                                                  1,666 mL
                                                                    378 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                  1,770 mL
   Urine:
                                                                  2,520 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -195 mL
                                                                 -1,209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.37/51/130/29/3
   Ve: 8 L/min
   PaO2 / FiO2: 217
   Physical Examination
   Gen: intubated and sedated, paralyzed
   HEENT: right cornea cloudy, sclera injected; left pinpoint pupil, some
   yellow drainage
   CV: tachycardic, regular, no M/R/G
   Lungs: decreased breath sounds at bases
   [**Last Name (un) 110**]: decreased bowel sounds, soft, mildly distended
   Extrem: trace edema
   Skin: rash unchanged
   Labs / Radiology
   496 K/uL
   8.3 g/dL
   134 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.6 mEq/L
   49 mg/dL
   104 mEq/L
   138 mEq/L
   25.1 %
   9.8 K/uL
        [image002.jpg]
                            [**2111-12-15**]  01:50 AM
                            [**2111-12-15**]  02:18 AM
                            [**2111-12-15**]  09:33 AM
                            [**2111-12-15**]  11:20 AM
                            [**2111-12-15**]  02:44 PM
                            [**2111-12-15**]  03:13 PM
                            [**2111-12-15**]  09:23 PM
                            [**2111-12-16**]  12:16 AM
                            [**2111-12-16**]  03:48 AM
                            [**2111-12-16**]  04:04 AM
   WBC
   8.7
   9.8
   Hct
   26.7
   25.1
   Plt
   552
   496
   Cr
   2.0
   1.6
   1.5
   TCO2
   27
   29
   26
   28
   28
   28
   31
   Glucose
   196
   87
   138
   102
   143
   134
   Other labs: PT / PTT / INR:12.0/54.8/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:87.4 %,
   Lymph:6.6 %, Mono:5.4 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.3
   g/dL, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Imaging: interval worsening in setting of clinical desat related to
   turning?
   Microbiology: C. diff negative
   No growth to date on blood cultures 11/16
   Assessment and Plan
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Respiratory failure:  Cause of respiratory failure most likely
   ARDS/sepsis vs PNA. p/F<200 consistent w/ ARDS. P/F slightly improved,
   217. Patient re-paralyzed Saturday to allow for lower tidal volumes.
   He continues to have high peak pressures and to pull large volumes when
   paralysis is lowered, so we will keep him paralyzed for now. Willing to
   tolerate PaO2 55. Patient not very negative yesterday because had
   episodes of hypotension. Tolerating lasix drip well now. Thoracic
   surgery consulted, will see pt today to evaluate for future trach & PEG
   placement in OR.
   - D/c cisatriconium
   - Daily CXR
   - fluid overload likely contributing. Goal negative 3L today
   -Start Lasix gtt
   -decrease FiO2 to 50, will then reassess with ABG
   - if tolerates decrease in FiO2, then decrease PEEP to 14.
   .
   #Fevers: Patient febrile overnight. Currently on broad spectrum
   antibiotics. Not covering for VRE, yeast. Concern for possible yeast
   line infection vs. C diff. Line site looks good making concern for this
   slightly lower.
   -panculture (blood, urine, sputum, stool for C.diff)
   - will d/c lines if culture positive, however given that patient has
   acute need for lines will culture prior to line d/c
   # Pneumonia: Patient has severe influenza with ARDS and possible
   bacterial superinfection.  He has completed his courses of antibiotics,
   and cultures have been negative besides influenza virus.  However,
   given the severity of his illness we will continue broad spectrum
   antibiotics for a total 14 day course.
   -Continue Vanco x14 days, aztreonam for 14 day total course for GN
   coverage, Azithro 10 day course per ID
   - Continue peramivir for total 10 days as patient not improving (done
   [**12-22**])
   - While on peramivir will need daily ECG and skin checks to monitor for
   toxicity.
   - f/u ID recs.
   .
   #Renal failure: Urine output has improved today.  Has muddy casts on
   urine sediment per renal, seems to have component of ATN.  AIN seems
   less likely w/ negative eos times two.  Renal ultrasound negative for
   obstruction.
   - f/u renal recs.
   - Lasix gtt.  Goal 3L negative today.
   - [**Hospital1 **] lytes while being diuresed.
   - Continue to renally dose all medications
   - Phosphate levels improving with calcium acetate.
   -recheck vancomycin level
   .
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.
   -Consult ophthomology
   .
   #Tachycardia: EKG done yesterday, felt to be likely multifocal atrial
   tachycardia. Patient started on Lopressor 12.5 mg PO BID. Will not
   increase as patient tolerates lasix drip better when blood pressure
   slightly increased.
   -Lopressor 12.5 mg PO BID
   # Rash: Rash seems to be improving now that zosyn d/c
d.  No signs of
   DRESS.
   - Continue to monitor.
   #Abdominal distension: Seems to have poor motility with paralysis that
   leads to increasing bowel distention.  Will continue gentle tube feeds.
   - Bowel regimen.
   .
   #Acidosis; Patient has a normal lactate, stably decreased bicarb.
   Bicarb has normalized with diuresis.
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #DM II: Insulin drip
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.  Will discuss
   with nutrition if can change from renal tube feeds to pulmonary tube
   feeds
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-15**] 04:24 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-17 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure [**3-2**] ARDS
   24 Hour Events:
 EKG - At [**2111-12-16**] 08:30 AM
   - Rads called: more pulm edema on this am's CXR, ETT only 1cm from
   carina, and R IJ perhaps too close to atrium --> pulled back ETT and
   repeat CXR w/ tube well-positioned
   - thoracic [**Doctor First Name 91**] recs: trach when PEEP around 8
   - lasix drip increased with goal of 3 L removal
   - f/u pan cultures d/t fever spike yesterday
   - paralytics stopped
   - patient asynchronous with the vent again. Tried sedation.  Tried
   pressure support and patient with too high of RR and pulling too high
   of tidal volumes so put back on CMV/Assist after 3.5 hours
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2111-12-15**] 10:20 AM
   Vancomycin - [**2111-12-16**] 08:30 AM
   Azithromycin - [**2111-12-16**] 04:00 PM
   Aztreonam - [**2111-12-17**] 02:00 AM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Insulin - Regular - 7 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-16**] 10:00 PM
   Midazolam (Versed) - [**2111-12-17**] 05:22 AM
   Fentanyl - [**2111-12-17**] 05:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-17**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 103 (89 - 108) bpm
   BP: 116/62(81) {116/62(81) - 159/77(107)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.3 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 18 (13 - 23)mmHg
   Total In:
                                                                  2,452 mL
                                                                    474 mL
   PO:
   TF:
                                                                    503 mL
                                                                    183 mL
   IVF:
                                                                  1,768 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  5,620 mL
                                                                  2,090 mL
   Urine:
                                                                  5,620 mL
                                                                  2,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,168 mL
                                                                 -1,615 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 262 (262 - 262) mL
   PS : 16 cmH2O
   RR (Set): 28
   RR (Spontaneous): 3
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/49/103/32/7
   Ve: 8.2 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Gen: intubated and sedated, paralyzed
   HEENT: right cornea cloudy, sclera injected; left pinpoint pupil, some
   yellow drainage
   CV: tachycardic, regular, no M/R/G
   Lungs: decreased breath sounds at bases
   [**Last Name (un) 110**]: decreased bowel sounds, soft, mildly distended
   Extrem: trace edema
   Skin: rash unchanged
   Labs / Radiology
   591 K/uL
   9.0 g/dL
   84 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.3 mEq/L
   43 mg/dL
   102 mEq/L
   140 mEq/L
   27.3 %
   12.0 K/uL
        [image002.jpg]
                            [**2111-12-16**]  07:51 AM
                            [**2111-12-16**]  02:04 PM
                            [**2111-12-16**]  02:50 PM
                            [**2111-12-16**]  03:07 PM
                            [**2111-12-16**]  04:19 PM
                            [**2111-12-16**]  05:24 PM
                            [**2111-12-16**]  08:11 PM
                            [**2111-12-17**]  12:06 AM
                            [**2111-12-17**]  03:15 AM
                            [**2111-12-17**]  03:31 AM
   WBC
   12.0
   Hct
   27.3
   Plt
   591
   Cr
   1.3
   1.3
   TCO2
   31
   30
   33
   30
   31
   35
   33
   34
   Glucose
   99
   142
   155
   148
   124
   78
   84
   Other labs: PT / PTT / INR:12.0/54.8/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Imaging: [**12-16**] CXR: worsened opacities w/ new effusions.
   [**12-17**] CXR: better than yesterday, but remains worse than 2 days ago.
   Microbiology: [**12-15**] c diff negative
   [**12-16**] blood cx pending
   [**12-16**] urine cx pending
   Assessment and Plan
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Respiratory failure:  Cause of respiratory failure most likely
   ARDS/sepsis vs PNA. p/F<200 consistent w/ ARDS. P/F slightly improved,
   217. Patient re-paralyzed Saturday to allow for lower tidal volumes.
   He continues to have high peak pressures and to pull large volumes when
   paralysis is lowered, so we will keep him paralyzed for now. Willing to
   tolerate PaO2 55. Patient not very negative yesterday because had
   episodes of hypotension. Tolerating lasix drip well now. Thoracic
   surgery consulted, will see pt today to evaluate for future trach & PEG
   placement in OR.
   - D/c cisatriconium
   - Daily CXR
   - fluid overload likely contributing. Goal negative 3L today
   -Start Lasix gtt
   -decrease FiO2 to 50, will then reassess with ABG
   - if tolerates decrease in FiO2, then decrease PEEP to 14.
   .
   #Fevers: Patient febrile overnight. Currently on broad spectrum
   antibiotics. Not covering for VRE, yeast. Concern for possible yeast
   line infection vs. C diff. Line site looks good making concern for this
   slightly lower.
   -panculture (blood, urine, sputum, stool for C.diff)
   - will d/c lines if culture positive, however given that patient has
   acute need for lines will culture prior to line d/c
   # Pneumonia: Patient has severe influenza with ARDS and possible
   bacterial superinfection.  He has completed his courses of antibiotics,
   and cultures have been negative besides influenza virus.  However,
   given the severity of his illness we will continue broad spectrum
   antibiotics for a total 14 day course.
   -Continue Vanco x14 days, aztreonam for 14 day total course for GN
   coverage, Azithro 10 day course per ID
   - Continue peramivir for total 10 days as patient not improving (done
   [**12-22**])
   - While on peramivir will need daily ECG and skin checks to monitor for
   toxicity.
   - f/u ID recs.
   .
   #Renal failure: Urine output has improved today.  Has muddy casts on
   urine sediment per renal, seems to have component of ATN.  AIN seems
   less likely w/ negative eos times two.  Renal ultrasound negative for
   obstruction.
   - f/u renal recs.
   - Lasix gtt.  Goal 3L negative today.
   - [**Hospital1 **] lytes while being diuresed.
   - Continue to renally dose all medications
   - Phosphate levels improving with calcium acetate.
   -recheck vancomycin level
   .
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.
   -Consult ophthomology
   .
   #Tachycardia: EKG done yesterday, felt to be likely multifocal atrial
   tachycardia. Patient started on Lopressor 12.5 mg PO BID. Will not
   increase as patient tolerates lasix drip better when blood pressure
   slightly increased.
   -Lopressor 12.5 mg PO BID
   # Rash: Rash seems to be improving now that zosyn d/c
d.  No signs of
   DRESS.
   - Continue to monitor.
   #Abdominal distension: Seems to have poor motility with paralysis that
   leads to increasing bowel distention.  Will continue gentle tube feeds.
   - Bowel regimen.
   .
   #Acidosis; Patient has a normal lactate, stably decreased bicarb.
   Bicarb has normalized with diuresis.
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #DM II: Insulin drip
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.  Will discuss
   with nutrition if can change from renal tube feeds to pulmonary tube
   feeds
   Prophylaxis: Subutaneous heparin; pneumoboots
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-16**] 12:24 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-17 11:52:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: influenza / ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2111-12-16**] 08:30 AM
   de-paralyzed --> difficulty with pt drawing higher tidal volumes -->
   increased sedation
   seen by ophtho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2111-12-15**] 10:20 AM
   Azithromycin - [**2111-12-16**] 04:00 PM
   Vancomycin - [**2111-12-17**] 08:00 AM
   Aztreonam - [**2111-12-17**] 10:50 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl (Concentrate) - 275 mcg/hour
   Midazolam (Versed) - 11 mg/hour
   Insulin - Regular - 6.5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-17**] 08:35 AM
   Fentanyl - [**2111-12-17**] 10:10 AM
   Midazolam (Versed) - [**2111-12-17**] 10:10 AM
   Other medications:
   metoprolol, asa, lasix gtt, peramivir, H2B, SQI, MDIs, azithro,
   calcium, vanco, SQH, levothyroxine, CHG, tobra eye gtt [**Hospital1 **], pred eye
   gtt daily, aztreonam
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-17**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 95 (87 - 108) bpm
   BP: 150/70(98) {113/60(78) - 160/77(107)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.3 kg (admission): 74.8 kg
   Height: 58 Inch
   CVP: 18 (13 - 21)mmHg
   Total In:
                                                                  2,452 mL
                                                                  1,117 mL
   PO:
   TF:
                                                                    503 mL
                                                                    289 mL
   IVF:
                                                                  1,768 mL
                                                                    768 mL
   Blood products:
   Total out:
                                                                  5,620 mL
                                                                  2,610 mL
   Urine:
                                                                  5,620 mL
                                                                  2,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,168 mL
                                                                 -1,493 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 262 (262 - 262) mL
   PS : 16 cmH2O
   RR (Set): 28
   RR (Spontaneous): 1
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 28 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/53/115/32/9
   Ve: 8.1 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Rash: folliculitis
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   591 K/uL
   155 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.5 mEq/L
   43 mg/dL
   96 mEq/L
   137 mEq/L
   27.3 %
   12.0 K/uL
        [image002.jpg]
                            [**2111-12-16**]  02:04 PM
                            [**2111-12-16**]  02:50 PM
                            [**2111-12-16**]  03:07 PM
                            [**2111-12-16**]  04:19 PM
                            [**2111-12-16**]  05:24 PM
                            [**2111-12-16**]  08:11 PM
                            [**2111-12-17**]  12:06 AM
                            [**2111-12-17**]  03:15 AM
                            [**2111-12-17**]  03:31 AM
                            [**2111-12-17**]  08:29 AM
   WBC
   12.0
   Hct
   27.3
   Plt
   591
   Cr
   1.3
   1.3
   TCO2
   30
   33
   30
   31
   35
   33
   34
   36
   Glucose
   142
   155
   148
   124
   78
   84
   155
   Other labs: PT / PTT / INR:12.0/54.8/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.3 g/dL, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR perhaps a bit worse.
   Assessment and Plan
   56-year-old man with
          Influenza (novel [**2111**]-H1N1)
          ARDS (severe hypoxemic respiratory failure)
          Acute renal failure
 improving and essentially resolved
          Shock
 now resolved
          Rash
 improved generally; now with some folliculities
          Hyperglycemia / diabetes
          Tachycardia (?MAT)
          Early corneal ulcer
   We
ve made remarkable progress with diuresis, and his PF ratio as
   markedly improved as well.  We will aggressively wean PEEP today.  If
   gets down to PEEP 10 or 12, consider liberalizing Vt.
   Continue present ABX and peramivir with course outlined by ID
   Continue aggressive diuresis with goal -2 to -3 L.
   Appreciated ophtho
s help.
   Other issues as per ICU team note from today.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-17**] 08:16 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments: increase to [**Hospital1 **] H2B
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Seen multiple times throughout the day.
   Successful diuresis.
   Successful PEEP decrement. Now at PEEP 10, FiO2 0.5.
   Plan:
                          Continue diuresis if BP tolerates
                          FiO2 to 0.4 now
          Check ABG and lytes at midnight
                          Wean PEEP to 8 if tolerates
                          Reassess with ABGs after
          If tolerates PEEP 8 for several hours, will consider
   sedation wean and PSV
   Critically ill. 30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2111-12-17**] 19:08 ------

2111-12-18 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2111-12-17**] 08:45 AM
   - renal signed off
   - ID: today last day of azithro, continue aztreonam (dose still
   appropriate for GFR) for total 14 days, peramivir finishes [**12-20**].
   - Lasix gtt continues with goal -3L today --> 6pm negative 2L
   - 3pm lytes: Na 140, K 4.1, Mg 1.9  --> 1130pm chem panel with BUN/Cr
   slightly better, HCO3 slightly increased
   - PEEP down to 12 --> ABG at 4pm 7.47/48/73/36 on AC 280x28, PEEP down
   to 10, FiO2 50%
   - Azithro d/c'd after last pm dose
   - MN labs: 7.45/55/89/39  --> went down to PEEP 8.
   - Turned off Lasix gtt at 1am, was -3L and alkalosis getting slightly
   worse --> Given 1 dose of Acetazolamide
   - ID: Peramivir until [**12-20**]. If worsens or febrile, low threshold to
   start Cefepime or Carbapenem (some x-reactivity b/t these agents and
   PCN but relatively low <10%)
   - Stopped insulin gtt. Required 90U in the last 24hrs, so originally
   started 22U Glargine [**Hospital1 **] but changed to 40U qhs plus SSI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2111-12-15**] 10:20 AM
   Azithromycin - [**2111-12-17**] 04:03 PM
   Vancomycin - [**2111-12-17**] 07:42 PM
   Aztreonam - [**2111-12-18**] 02:19 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 13 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-17**] 08:35 AM
   Midazolam (Versed) - [**2111-12-17**] 10:10 AM
   Fentanyl - [**2111-12-17**] 10:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-18**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 100 (87 - 103) bpm
   BP: 125/60(83) {113/53(78) - 160/80(110)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.9 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 9 (4 - 17)mmHg
   Total In:
                                                                  2,572 mL
                                                                    459 mL
   PO:
   TF:
                                                                    600 mL
                                                                    173 mL
   IVF:
                                                                  1,672 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                  5,445 mL
                                                                  1,240 mL
   Urine:
                                                                  5,145 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,873 mL
                                                                   -781 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 467 (467 - 467) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 19 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.45/48/112/32/8
   Ve: 7.7 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen: intubated and sedated, paralyzed
   HEENT: right cornea cloudy, sclera injected; left eye covered
   CV: tachycardic, regular, no M/R/G
   Lungs: decreased breath sounds at bases
   [**Last Name (un) 110**]: decreased bowel sounds, soft, mildly distended
   Extrem: trace edema
   Skin: rash fading, but now has some small pustules.
   Labs / Radiology
   673 K/uL
   8.5 g/dL
   194 mg/dL
   1.2 mg/dL
   32 mEq/L
   4.3 mEq/L
   41 mg/dL
   100 mEq/L
   140 mEq/L
   26.5 %
   11.6 K/uL
        [image002.jpg]
                            [**2111-12-17**]  03:15 AM
                            [**2111-12-17**]  03:31 AM
                            [**2111-12-17**]  08:29 AM
                            [**2111-12-17**]  01:10 PM
                            [**2111-12-17**]  04:22 PM
                            [**2111-12-17**]  07:52 PM
                            [**2111-12-17**]  11:29 PM
                            [**2111-12-18**]  12:14 AM
                            [**2111-12-18**]  04:55 AM
                            [**2111-12-18**]  05:26 AM
   WBC
   12.0
   11.6
   Hct
   27.3
   26.5
   Plt
   591
   673
   Cr
   1.3
   1.2
   1.2
   TCO2
   34
   36
   36
   36
   36
   39
   34
   Glucose
   84
   155
   77
   112
   194
   Other labs: PT / PTT / INR:12.0/54.8/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.3 g/dL, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: slight interval improvement on right side
   Microbiology: sputum: yeast
   Assessment and Plan
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Respiratory failure:  Cause of respiratory failure most likely
   ARDS/sepsis combined w/ fluid overload and possible bacterial
   pneumonia. p/F<200 initially, today is improving and outside of ARDS
   range and patient is breathing well off of paralysis. His improvement
   seems to be mostly due to very good diuresis.  Thoracic surgery
   consulted and are willing to do trach placement once PEEP is 8 or
   lower. PEEP now 8. thoracic surgery aware, patient planned for OR
   Monday unless off ventilator by then.  Tolerating pressure support
   well. Patient became agitated off sedation, will need to wean sedation
   slowly as this is likely the major barrier to extubation.
   - Daily CXR
   - Excellent diuresis yesterday, however became alkalotic
   -Will continue diuresis , check evening lytes and acetazolamide  x1
   now, will give again if needed
   .
   #Fevers/leukocytosis: Patient afebrile overnight, WBC count trending
   down. Currently on broad spectrum antibiotics. Not covering for VRE,
   yeast. Concern for possible yeast line infection vs. C diff. Line site
   looks good making concern for this slightly lower; blood cultures
   negative to date.
   - will d/c lines if culture positive, however given that patient has
   acute need for lines will culture prior to line d/c
   # Pneumonia: Patient has severe influenza with ARDS and possible
   bacterial superinfection.  He has completed his courses of antibiotics,
   and cultures have been negative besides influenza virus.  However,
   given the severity of his illness we will continue broad spectrum
   antibiotics for a total 14 day course. Finished azithromycin yesterday.
   -Continue Vanco (day [**1-11**]), aztreonam for (day12/14) day total course
   for GN coverage
   - Continue peramivir for total 10 days as patient not improving (done
   [**12-20**])
   - While on peramivir will need daily ECG and skin checks to monitor for
   toxicity.
   - f/u ID recs.
   .
   #Renal failure: Urine output and creatinine have improved.  Has muddy
   casts on urine sediment per renal, seems to have component of ATN.
   - renal team has signed off
   - Lasix gtt.  Goal as negative as possible given that patient is
   relatively euvolemic, may not be able to be diuresed much more.
   - [**Hospital1 **] lytes while being diuresed.
   - With improving renal function and normal phosphate, will consider
   stopping calcium acetate.
   .
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who suggested some changes to his eye-drops and
   outpatient follow-up.
   .
   #Tachycardia: Likely multifocal atrial tachycardia. Patient started on
   Lopressor 12.5 mg PO BID. Will not increase as patient tolerates lasix
   drip better when blood pressure slightly increased. If patient is
   tachycardic or hypertensive later in the day with decreased sedation,
   will increase this as needed.
   -Lopressor 12.5 mg PO BID
   # Rash: Rash seems to be improving now that zosyn d/c
d.  No signs of
   DRESS.  Has some signs of folliculitis today
   -Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   - Continue to monitor.
   #Abdominal distension: Seems to have poor motility with paralysis that
   leads to increasing bowel distention.  Will continue gentle tube feeds.
   Patient has had some loose stools today, will check C. diff to ensure
   that he is not infected given that he is on a large number of
   antibiotics.
   - Bowel regimen.
   -C diff cultures
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #DM II: Insulin drip
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.
   Prophylaxis: Subutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-18**] 04:16 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-8**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-19 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   - vanc trough high, changed to 1gm Q24hrs starting tonight at 8pm with
   level checked beforehand..
   - Was neg almost 2L at 6pm and slightly hypotensive, so lasix stopped.
   - tachypneic at [**2132**] with sats down to mid 80s, overbreathing vent,
   unclear precipitant.  ? tiring out, went onto CMV at previous settings
   (PEEP 8, FiO2 40%, tidal volume 280, RR 28).  Gas stable.
   - 3am again tachypneic with sats to mid 80s. Increased PEEP to 10, FiO2
   to 50%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2111-12-17**] 04:03 PM
   Vancomycin - [**2111-12-17**] 07:42 PM
   Aztreonam - [**2111-12-19**] 02:08 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Insulin - Regular - 4 units/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2111-12-18**] 04:00 PM
   Fentanyl - [**2111-12-18**] 04:19 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-18**] 10:32 PM
   Other medications:
   Flowsheet Data as of  [**2111-12-19**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 99 (89 - 116) bpm
   BP: 117/68(88) {82/56(67) - 172/92(125)} mmHg
   RR: 20 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.9 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 15 (6 - 335)mmHg
   Total In:
                                                                  1,677 mL
                                                                    334 mL
   PO:
   TF:
                                                                    602 mL
                                                                    163 mL
   IVF:
                                                                  1,015 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  3,265 mL
                                                                    485 mL
   Urine:
                                                                  2,815 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,588 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 414 (293 - 545) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.48/46/80.[**Numeric Identifier 20**]/30/9
   Ve: 7.3 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Gen: Sedated and intubated
   Heart: NRRR; no murmurs
   Chest: decreased BS at bases
   Abdomen: mildly distended, normal BS
   Ext: trace edema in LE; L and R hand 2+ edema (no erythema)
   Labs / Radiology
   636 K/uL
   8.1 g/dL
   132 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.3 mEq/L
   41 mg/dL
   102 mEq/L
   140 mEq/L
   24.2 %
   13.2 K/uL
        [image002.jpg]
                            [**2111-12-17**]  07:52 PM
                            [**2111-12-17**]  11:29 PM
                            [**2111-12-18**]  12:14 AM
                            [**2111-12-18**]  04:55 AM
                            [**2111-12-18**]  05:26 AM
                            [**2111-12-18**]  08:31 AM
                            [**2111-12-18**]  11:31 AM
                            [**2111-12-18**]  05:11 PM
                            [**2111-12-18**]  09:07 PM
                            [**2111-12-19**]  03:10 AM
   WBC
   11.6
   13.2
   Hct
   26.5
   24.2
   Plt
   673
   636
   Cr
   1.2
   1.2
   1.2
   1.1
   TCO2
   36
   39
   34
   37
   32
   35
   Glucose
   112
   194
   188
   188
   136
   132
   Other labs: PT / PTT / INR:12.0/54.8/1.0, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.3 g/dL, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Imaging: [**12-18**] CXR:
   Cardiomediastinal contours are unchanged with mild cardiomegaly.
   Extensive
   alveolar interstitial abnormalities, left greater than right unchanged.
   Small
   bilateral pleural effusions. ET tube tip is 5.8 cm above the carina.
   Right
   IJ catheter remains in place. NG tube tip is in the stomach.
   Microbiology: [**2111-12-16**] 4:25 pm SPUTUM      Source: Endotracheal.   GRAM
   STAIN (Final [**2111-12-16**]):    [**11-22**] PMNs and <10 epithelial cells/100X
   field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2111-12-18**]):  Commensal Respiratory Flora
   Absent.   YEAST.    SPARSE GROWTH.
   (YEAST in [**12-14**] Sputum as well)
   CDIFF NEGATIVE X3 ([**12-18**], [**12-15**]. [**12-13**])
   All other blood, stool cultures NTD
   Assessment and Plan
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   .
   # Respiratory failure:  Cause of respiratory failure most likely
   ARDS/sepsis combined w/ fluid overload and possible bacterial
   pneumonia. p/F<200 initially, today is improving and outside of ARDS
   range and patient is breathing well off of paralysis. His improvement
   seems to be mostly due to very good diuresis.  Thoracic surgery
   consulted and are willing to do trach placement once PEEP is 8 or
   lower. Patient planned for OR Monday unless off ventilator by then.
   Tolerating pressure support well. Patient became agitated off sedation,
   will need to wean sedation slowly as this is likely the major barrier
   to extubation.
   - Try to wean pressure support back to 8 so that can get trach on
   Monday; ENT will leave pre-op surgery recs in chart tomorrow.
   - Daily CXR
   -Will continue diuresis , check evening lytes and give acetazolamide if
   needed
   .
   #Fevers/leukocytosis: Patient with low-grade fevers overnight, WBC
   count trending up. Currently on broad spectrum antibiotics. Not
   covering for VRE, yeast. Concern for possible yeast line infection vs.
   C diff. Line site looks good making concern for this slightly lower;
   blood cultures negative to date.
   - will d/c lines if culture positive, however given that patient has
   acute need for lines will culture prior to line d/c
   - plan to trach and take tube out on Mon
   - continue to monitor
   .
   # Pneumonia: Patient has severe influenza with ARDS and possible
   bacterial superinfection.  He has completed his courses of antibiotics,
   and cultures have been negative besides influenza virus.  However,
   given the severity of his illness we will continue broad spectrum
   antibiotics for a total 14 day course. Finished azithromycin yesterday.
   - Continue Vanco (day 13/14), aztreonam for (day13/14) day total course
   for GN coverage
   - Stop peramivir; completed 10 day course
   - f/u ID recs.
   .
   #Renal failure: Urine output and creatinine have improved.  Has muddy
   casts on urine sediment per renal, seems to have component of ATN.
   - renal team has signed off
   - Lasix gtt.  Goal as negative as possible given that patient is
   relatively euvolemic, may not be able to be diuresed much more.
   - [**Hospital1 **] lytes while being diuresed.
   - With improving renal function and normal phosphate, will consider
   stopping calcium acetate.
   .
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Also suggested some changes to his eye-drops and outpatient follow-up.
   Patient already has outpatient appointment set up
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   .
   #Tachycardia: Likely multifocal atrial tachycardia. Patient started on
   Lopressor 12.5 mg PO BID. Will not increase as patient tolerates lasix
   drip better when blood pressure slightly increased. If patient is
   tachycardic or hypertensive later in the day with decreased sedation,
   will increase this as needed.
   -Lopressor 12.5 mg PO BID
   .
   # Rash: Rash seems to be improving now that zosyn d/c
d.  No signs of
   DRESS.  Has some signs of folliculitis today
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   - Continue to monitor.
   .
   #Abdominal distension: Seems to have poor motility with paralysis that
   leads to increasing bowel distention.  Will continue gentle tube feeds.
   Patient has had some loose stools today, checked C. diff to ensure that
   he is not infected given that he is on a large number of antibiotics
   and was  negative X3.  Rectal tube placed which seems to be improving
   his distention
   - Bowel regimen.
   -continue rectal tubes
   .
   # R hand swelling
   - U/S of R arm
    .
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #DM II: Blood glucose has been low on insulin drip, high on insulin
   sliding scale
   - d/c Insulin drip and re-write for more aggressive sliding scale.
   .
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.
   Prophylaxis: Subutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   CC: resp failure
   56-year-old man with H1N1, severe hypoxemic ARDS, shock, and ARF.  Also
   hx DM and Down
s (though working in community).
   Issues:
          ARDS
          Resp failure
          H1n1, on peramivir until yesterday [**12-18**]
          ATN (improved)
          Sedation requirement high due to agitation. Managed to
   switch versed to propofol
   ---
   Overnight: Episode of tachypnea last evening 8pm after vent settings
   reduced to PS/PEEP [**6-2**] and sedation weaned from fent 300/versed 13 -->
   changed to propofol, fent 150. Became hypoxemic to mid-80s, tachypneic,
   CMV with PEEP 8. Similar episode of resp distress and increased PEEP
   10.
   Tm 100.1.
   Neg 0.6/24h.
   Vent AC 0.5/280/8/10.
   Sedated now and barely arousable.
   Decreased breath sounds at bases, rhonchi, minimal crackles.
   A/P:
   Given the events related to decreasing degree of support, goal now will
   be to maintain full vent support, try to reduce PEEP to 8, with plan
   for trach Monday.
   Abx now: vanc/azithro/aztreonam.
   35 minutes critical care time.
   Discussed with Mr [**Known lastname 9877**]
s parents.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2111-12-19**] 19:46 ------

2111-12-20 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - BS low on insulin drip and high on sliding scale.  Tried adjusting
   sliding scale and restarting glagine and see how does overnight
   - Unable to wean from PEEP of 10-->8
   - stopped peramavir
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2111-12-17**] 04:03 PM
   Vancomycin - [**2111-12-19**] 07:53 AM
   Aztreonam - [**2111-12-20**] 02:04 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Furosemide (Lasix) - 4 mg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-19**] 02:48 PM
   Fentanyl - [**2111-12-19**] 10:30 PM
   Propofol - [**2111-12-19**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-20**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 99 (85 - 106) bpm
   BP: 87/71(80) {81/54(66) - 137/83(105)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.9 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 11 (6 - 18)mmHg
   Total In:
                                                                  1,642 mL
                                                                    587 mL
   PO:
   TF:
                                                                    600 mL
                                                                    194 mL
   IVF:
                                                                  1,041 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  2,517 mL
                                                                  1,620 mL
   Urine:
                                                                  2,317 mL
                                                                  1,620 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                          -875  negative 1L through LOS mL
                                                                 -1,033 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 280) mL
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: 7.47/39/93/28/4    6AM THIS MORNING
   Ve: 7.5 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   717 K/uL
   8.5 g/dL
   116 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.2 mEq/L
   40 mg/dL
   99 mEq/L
   138 mEq/L
   25.3 %
   13.4 K/uL
        [image002.jpg]
                            [**2111-12-18**]  05:26 AM
                            [**2111-12-18**]  08:31 AM
                            [**2111-12-18**]  11:31 AM
                            [**2111-12-18**]  05:11 PM
                            [**2111-12-18**]  09:07 PM
                            [**2111-12-19**]  03:10 AM
                            [**2111-12-19**]  09:52 AM
                            [**2111-12-19**]  05:09 PM
                            [**2111-12-20**]  03:06 AM
                            [**2111-12-20**]  06:00 AM
   WBC
   13.2
   13.4
   ELEVATED
   Hct
   24.2
   25.3
   STABLE
   Plt
   636
   717
   RISING
   Cr
   1.2
   1.1
   1.1
   1.1
   STABLE
   TCO2
   34
   37
   32
   35
   30
   29
   Glucose
   188
   188
   136
   132
   109
   186
   116
   Other labs: PT / PTT / INR:12.5/55.7/1.1   THIS MORNING , ALT /
   AST:31/46, Alk Phos / T Bili:115/0.8, Amylase / Lipase:34/10,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, Ca++:8.8 mg/dL, Mg++:1.8
   mg/dL, PO4:5.6 mg/dL  ELEVATED
   Fluid analysis / Other labs: 552am Vanc trough 17.1
   Imaging: CXR this am not on OMR yet
   [**12-19**] Right internal jugular vein not interrogated secondary to
   overlying dressing.  No DVT identified in the right upper extremity.
   [**12-19**] CXR
   Mild cardiomegaly is unchanged. Extensive bilateral opacities, left
   greater than right, are unchanged. Small bilateral pleural effusions
   are larger on the right side and stable. ET tube, right IJ, and NG tube
   remain in place in standard position.
   Microbiology: [**12-18**] STOOL Cdiff negative
   [**12-16**] sputum with yeast, BCx negative, UCx negative
   Assessment and Plan
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A
   # Respiratory failure:  Cause of respiratory failure most likely
   ARDS/sepsis combined w/ fluid overload and possible bacterial
   pneumonia. p/F<200 initially, today is improving and outside of ARDS
   range and patient is breathing well off of paralysis. His improvement
   seems to be mostly due to very good diuresis.  Thoracic surgery
   consulted and are willing to do trach placement once PEEP is 8 or
   lower. Patient planned for OR Monday unless off ventilator by then.
   Tolerating pressure support well. Patient became agitated off sedation,
   will need to wean sedation slowly as this is likely the major barrier
   to extubation.
   - F/u Surgery/ENT? recs today and try to get PEEP <8 so that he can get
   trach on Monday
   - Daily CXR
   -Will continue diuresis , check evening lytes and give acetazolamide if
   needed
   #Fevers/leukocytosis: Patient with low-grade fevers overnight, WBC
   count trending up. Currently on broad spectrum antibiotics. Not
   covering for VRE, yeast. Concern for possible yeast line infection vs.
   C diff. Line site looks good making concern for this slightly lower;
   blood cultures negative to date.
   - will d/c lines if culture positive, however given that patient has
   acute need for lines will culture prior to line d/c
   - plan to trach and take tube out on Mon
   - continue to monitor
   # Pneumonia: Patient has severe influenza with ARDS and possible
   bacterial superinfection.  He has completed his courses of antibiotics,
   and cultures have been negative besides influenza virus.  However,
   given the severity of his illness we will continue broad spectrum
   antibiotics for a total 14 day course. Finished azithromycin yesterday.
   - With continued fevers and rising WBC count, will continue Vanc and
   Aztreonam for empiric coverage at this point.
   - Stopped peramivir; completed 10 day course
   - f/u ID recs.
   #Renal failure: Urine output and creatinine have improved.  Has muddy
   casts on urine sediment per renal, seems to have component of ATN.
   - renal team has signed off
   - Lasix gtt.  Goal will be even today with Lasix gtt continued.
   - [**Hospital1 **] lytes while being diuresed.
   - With improving renal function and normal phosphate, will consider
   stopping calcium acetate.
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Also suggested some changes to his eye-drops and outpatient follow-up.
   Patient already has outpatient appointment set up
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   #Tachycardia: Likely multifocal atrial tachycardia. Patient started on
   Lopressor 12.5 mg PO BID. Will not increase as patient tolerates lasix
   drip better when blood pressure slightly increased. If patient is
   tachycardic or hypertensive later in the day with decreased sedation,
   will increase this as needed.
   -Lopressor 12.5 mg PO BID
   # Rash: Rash seems to be improving now that zosyn d/c
d.  No signs of
   DRESS.  Has some signs of folliculitis today
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   - Continue to monitor.
   #Abdominal distension: Seems to have poor motility with paralysis that
   leads to increasing bowel distention.  Will continue gentle tube feeds.
   Patient has had some loose stools today, checked C. diff to ensure that
   he is not infected given that he is on a large number of antibiotics
   and was  negative X3.  Rectal tube placed which seems to be improving
   his distention
   - Bowel regimen.
   -continue rectal tubes
   # R hand swelling
   - U/S of R arm
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   #DM II: Blood glucose has been low on insulin drip, high on insulin
   sliding scale
   - d/c Insulin drip and re-write for more aggressive sliding scale.
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.
   Prophylaxis: Subutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother
   Disposition: pending improved respiratory status.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-19**] 08:11 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-18**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-21 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure/ARDS
   24 Hour Events:
 PAN CULTURE - At [**2111-12-21**] 03:46 AM fever 101.1
 FEVER - 101.1
F - [**2111-12-21**] 04:00 AM
   - Febrile 101.1 this am --> BCx x2, UCx, SCx
   - Down to PS 10/5 but called for tachypnea, tachycardia, HTN -->
   changed to PS 15/8, 50%
   - Look at R CVL --> getting erythematous at insertion site, may need to
   be changed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-20**] 08:06 AM
   Aztreonam - [**2111-12-20**] 09:06 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-20**] 08:08 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-20**] 10:00 PM
   Propofol - [**2111-12-20**] 11:28 PM
   Fentanyl - [**2111-12-21**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-21**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 93 (85 - 112) bpm
   BP: 121/70(91) {87/60(77) - 153/99(120)} mmHg
   RR: 22 (10 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 12 (6 - 21)mmHg
   Total In:
                                                                  1,731 mL
                                                                    147 mL
   PO:
   TF:
                                                                    600 mL
                                                                      2 mL
   IVF:
                                                                  1,011 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  3,505 mL
                                                                    340 mL
   Urine:
                                                                  3,480 mL
                                                                    340 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,774 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 280 (280 - 280) mL
   Vt (Spontaneous): 434 (434 - 481) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 24 cmH2O
   Plateau: 12 cmH2O
   SpO2: 96%
   ABG: 7.48/38/104/29/4
   Ve: 9.9 L/min
   PaO2 / FiO2: 208
   Physical Examination
   Intubated, sedated. Lungs fairly clear. S1 S2 clear, RRR. Abd slightly
   distended but benign, no grimacing to palpation. Folliculitis on
   bilateral arms appears improved.
   Labs / Radiology
   699 K/uL
   8.8 g/dL
   65 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   37 mg/dL
   100 mEq/L
   139 mEq/L
   26.2 %
   13.2 K/uL
        [image002.jpg]
                            [**2111-12-18**]  09:07 PM
                            [**2111-12-19**]  03:10 AM
                            [**2111-12-19**]  09:52 AM
                            [**2111-12-19**]  05:09 PM
                            [**2111-12-20**]  03:06 AM
                            [**2111-12-20**]  06:00 AM
                            [**2111-12-20**]  11:15 AM
                            [**2111-12-20**]  11:32 AM
                            [**2111-12-20**]  05:02 PM
                            [**2111-12-21**]  02:51 AM
   WBC
   13.2
   13.4
   13.2
   Hct
   24.2
   25.3
   26.2
   Plt
   [**Telephone/Fax (3) 10087**]
   Cr
   1.1
   1.1
   1.1
   1.2
   1.0
   TCO2
   35
   30
   29
   29
   29
   Glucose
   132
   109
   186
   116
   195
   197
   65
   Other labs: PT / PTT / INR:12.7/55.0/1.1, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:5.0 mg/dL
   Imaging: [**12-21**] CXR: slight worsening from 21, overall trend much
   improved.
   Microbiology: [**12-18**] Cdiff negative
   [**12-21**] blood and urine cx pending
   [**12-21**] sputum pending
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   Active issues:
   # Respiratory failure: ARDS/sepsis combined w/ fluid overload and
   possible bacterial pneumonia.  Thoracic surgery consulted and are
   willing to do trach placement once PEEP is 8 or lower. Patient planned
   for OR Monday unless off ventilator by then.
   - Trach and PEG by interventional pulmonology this morning.
   - If unable, TF
s stopped after midnight
   #Fevers/leukocytosis: Febrile to 101.1 last night, pan-cultured, but no
   clear source.  Currently off of antibiotics.
   Patient with low-grade fevers overnight, WBC count trending up.
   Currently on broad spectrum antibiotics and we have no recent infxns
   for which we are treating. Has completed courses of Azithro, Peramivir,
   and continuing Vanc/Aztreo had been discussed. However, he has received
   full courses of these ABx and it seems reasonable to see how he does
   off of these now.
   - D/C all ABx today but with lower threshold to restart if continues to
   be febrile or worsens
   - Keeping in lines for now as he needs them, but would consider pulling
   if worsens
   # Pneumonia: Patient has severe influenza with ARDS and possible
   bacterial superinfection.  He has completed his courses of antibiotics,
   and cultures have been negative besides influenza virus.  As above for
   ABx regimen
 has now completed Peramivir course, Azithro, and will d/c
   Vanc/Aztreonam today.
   #Renal failure: Urine output and creatinine have improved.  Has muddy
   casts on urine sediment per renal, seems to have component of ATN.
   - Already negative this morning so will hold Lasix gtt and see how he
   does through the day
   - Goal will be even for the day
   - Renal team has signed off
   # DM2: Was on insulin gtt until recently, but now switched to Glargine
   40U qhs and SSI. Has increasing SSI needs. Will need to calculate
   insulin requirements through today and increase Glargine, however,
   should probably do this after his TF
s have been restarted (holding
   tonight after midnight for possible trach tomorrow).
   Other stable issues:
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Also suggested some changes to his eye-drops and outpatient follow-up.
   Patient already has outpatient appointment set up
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   #Tachycardia: Likely multifocal atrial tachycardia. Patient started on
   Lopressor 12.5 mg PO BID. Will not increase as patient tolerates lasix
   drip better when blood pressure slightly increased. If patient is
   tachycardic or hypertensive later in the day with decreased sedation,
   will increase this as needed.
   -Lopressor 12.5 mg PO BID
   # Rash: Rash seems to be improving now that zosyn d/c
d.  No signs of
   DRESS.  Has some signs of folliculitis today
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   - Continue to monitor.
   #Abdominal distension: Seems to have poor motility with paralysis that
   leads to increasing bowel distention.  Will continue gentle tube feeds.
   Patient has had some loose stools today, checked C. diff to ensure that
   he is not infected given that he is on a large number of antibiotics
   and was  negative X3.  Rectal tube placed which seems to be improving
   his distention
   - Bowel regimen.
   -continue rectal tubes
   # R hand swelling
   - U/S of R arm
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.
   Prophylaxis: Subutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily
   Disposition: pending improved respiratory status.

2111-12-21 12:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with H1N1 influenza, ARDS, shock, and ARF.  h/o DM and
   Down's.  Was paralyzed for some time.  Has been slowly improving.
   Still on high levels of sedation and weaning down the ventilator.
   24 Hour Events:
 PAN CULTURE - At [**2111-12-21**] 03:46 AM
   fever 101.1
 FEVER - 101.1
F - [**2111-12-21**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-20**] 08:06 AM
   Aztreonam - [**2111-12-20**] 09:06 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-20**] 08:08 PM
   Propofol - [**2111-12-20**] 11:28 PM
   Fentanyl - [**2111-12-21**] 03:15 AM
   Heparin Sodium (Prophylaxis) - [**2111-12-21**] 08:59 AM
   Dextrose 50% - [**2111-12-21**] 11:49 AM
   Other medications:
   lopressor
   atrovent
   calcium acetate
   hep s/q
   levoxyl
   chlorehex
   famotadine
   insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-21**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.1
   HR: 88 (88 - 112) bpm
   BP: 111/66(84) {91/61(79) - 153/99(120)} mmHg
   RR: 18 (13 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.9 kg (admission): 74.8 kg
   Height: 58 Inch
   CVP: 12 (6 - 21)mmHg
   Total In:
                                                                  1,731 mL
                                                                    363 mL
   PO:
   TF:
                                                                    600 mL
                                                                      2 mL
   IVF:
                                                                  1,011 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  3,505 mL
                                                                    680 mL
   Urine:
                                                                  3,480 mL
                                                                    680 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,774 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 584 (434 - 584) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.48/38/104/29/4
   Ve: 10.2 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: No(t) PERRL, right eye not reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   699 K/uL
   65 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   37 mg/dL
   100 mEq/L
   139 mEq/L
   26.2 %
   13.2 K/uL
        [image002.jpg]
                            [**2111-12-18**]  09:07 PM
                            [**2111-12-19**]  03:10 AM
                            [**2111-12-19**]  09:52 AM
                            [**2111-12-19**]  05:09 PM
                            [**2111-12-20**]  03:06 AM
                            [**2111-12-20**]  06:00 AM
                            [**2111-12-20**]  11:15 AM
                            [**2111-12-20**]  11:32 AM
                            [**2111-12-20**]  05:02 PM
                            [**2111-12-21**]  02:51 AM
   WBC
   13.2
   13.4
   13.2
   Hct
   24.2
   25.3
   26.2
   Plt
   [**Telephone/Fax (3) 10087**]
   Cr
   1.1
   1.1
   1.1
   1.2
   1.0
   TCO2
   35
   30
   29
   29
   29
   Glucose
   132
   109
   186
   116
   195
   197
   65
   Other labs: PT / PTT / INR:12.7/55.0/1.1, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.3 g/dL, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   Respiratory failure:  Improving Influenza PNA.  Trach and peg today.
   Will try and wean sedation.
   Leukocytosis and fevers:  persistent fever/WBC, no clear source.  Will
   need IJ line changed to PIC line if possible.
   U/E paralysis: Is at risk for C-spine injury given Down's, but seems
   hyporeflexic which would go more for ICU neuropathy.
   Will get better neuro exam and consider nerve conduction studies.
   Eye redness:  corneal ulcer
   rash:  Drug rash improving.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-18**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2111-12-22 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2111-12-21**] 12:45 PM
 OR RECEIVED - At [**2111-12-21**] 02:58 PM
 INVASIVE VENTILATION - STOP [**2111-12-21**] 07:14 PM
   - Got trach
   - PEG not done due to machine dysfxn, plan to do today
   - OG tube pulled and meds (famotidine and lopressor) made IV until PEG
   placed.
   - Got EMG study, shows moderate sensorimotor polyneuropathy, likely
   critical illness neuropathy, could also be diabetes.
   - Gave back 500cc of fluid as patient very negative in setting of being
   NPO.  Goal was to be even.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-20**] 08:06 AM
   Aztreonam - [**2111-12-20**] 09:06 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2111-12-21**] 11:49 AM
   Metoprolol - [**2111-12-21**] 04:16 PM
   Fentanyl - [**2111-12-21**] 06:43 PM
   Famotidine (Pepcid) - [**2111-12-21**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-22**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 98 (86 - 142) bpm
   BP: 109/67(84) {89/52(68) - 147/82(110)} mmHg
   RR: 23 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.2 kg (admission): 74.8 kg
   Height: 58 Inch
    CVP: 10 (10 - 15)mmHg
   Total In:
                                                                  1,057 mL
                                                                     36 mL
   PO:
   TF:
                                                                      2 mL
   IVF:
                                                                    982 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    365 mL
   Urine:
                                                                  1,400 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                     -843  --> negative 1L through LOS  mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 377 (377 - 584) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.45/32/78/26/0   YESTERDAY 430PM
   Ve: 8.3 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   819 K/uL
   8.3 g/dL
   88
   1.0 mg/dL
   26 mEq/L
   4.8 mEq/L
   27 mg/dL
   107 mEq/L
   142 mEq/L
   23.7 %
   12.1 K/uL
        [image002.jpg]
                            [**2111-12-20**]  06:00 AM
                            [**2111-12-20**]  11:15 AM
                            [**2111-12-20**]  11:32 AM
                            [**2111-12-20**]  05:02 PM
                            [**2111-12-21**]  02:51 AM
                            [**2111-12-21**]  04:12 PM
                            [**2111-12-21**]  04:30 PM
                            [**2111-12-22**]  02:47 AM
                            [**2111-12-22**]  04:00 AM
                            [**2111-12-22**]  06:00 AM
   WBC
   13.2
   12.1 STABLE ELEVATED
   Hct
   26.2
   23.7  DROP THIS AM
   Plt
   699
   819  CONTINUES TO RISE
   Cr
   1.2
   1.0
   1.0
   TCO2
   29
   29
   29
   29
   23
   Glucose
   195
   197
   65
   159
   90
   99
   88
   Other labs: PT / PTT / INR:13.5/51.1/1.2   THIS AM , ALT / AST:31/46,
   Alk Phos / T Bili:115/0.8, Amylase / Lipase:34/10,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.2 mmol/L, Albumin:2.3 g/dL, Ca++:8.3 mg/dL, Mg++:2.3
   mg/dL, PO4:4.2 mg/dL
   Imaging: [**12-21**] CXR yesterday looks worse in the R
   [**12-21**] EMG
   IMPRESSION:
   Abnormal, technically-limited study. There is electrophysiologic
   evidence for
   a moderate sensorimotor polyneuropathy with predominantly axonal
   features.
   Although a diagnosis of critical-illness polyneuropathy is the most
   likely
   explanation in this clinical context, the findings could also be
   explained by
   the patient's underlying diabetes. The electrophysiologic abnormalities
   which
   could be construed as consistent with primary demyelination (absent F
   responses and prolonged distal CMAP durations) are more likely the
   result of
   technical factors. Disorders of the neuromuscular junction and
   myopathic
   processes could not be assessed due to technical limitations and lack
   of
   patient cooperation.
   Microbiology: [**12-21**] SPUTUM 1+ budding yeast
   BCx x2, UCx negative to date
   Cdiff negative
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   Active issues:
   # Respiratory failure: Originially ARDS/sepsis combined w/ fluid
   overload and possible bacterial pneumonia.  Pt has now been trach'ed
   but didn't get PEG due to problems with EGD scope, so planning to go
   today. Continues now on CPAP 10/5, 50%.
   - Tomorrow consider trach mask trials, but will defer for now until
   after PEG placed
   - To get PEG today
   #Fevers/leukocytosis: Febrile to 101.1 two nights ago, pan-cultured,
   but no clear source and Cx's continue to be negative. Budding yeast in
   most recent sputum likely OP flora.  Currently off of antibiotics, and
   given lack of source we will not start any medications at this time.
   Has completed courses of Azithro, Peramivir, and continuing Vanc/Aztreo
   had been discussed. However, he has received full courses of these ABx
   and it seems reasonable to see how he does off of these now.
   - D/C all ABx yesterday but with lower threshold to restart if
   continues to be febrile or worsens
   - Would more strongly pulling R IJ and if continues to have IV needs,
   consider a PICC
   # Acute drop in Hct: Did have a minor surgery yesterday but wouldn't
   think pt would lose a whole unit of blood.
   - Repeat Hct later this evening and continues to go down will transfuse
   # Pneumonia: Patient has severe influenza with ARDS and possible
   bacterial superinfection.  He has completed his courses of antibiotics,
   and cultures have been negative besides influenza virus.  Stopped
   antibiotics yesterday.
    #Renal failure: Urine output and creatinine have improved.  Has muddy
   casts on urine sediment per renal, seems to have component of ATN.
   - Off of lasix gtt
   - Goal will be even for the day
   - Renal team has signed off
   # DM2: Was on insulin gtt until recently, but now switched to Glargine
   40U qhs and SSI. Has increasing SSI needs.
   - Will calculate insulin requirements once pt is taking PO. Not today,
   as pt currently NPO for PEG today
   # Critical illness myopathy:
    - Need to address underlying illness and once pt wakes up a little
   more, will consult PT
   [**Name (NI) **] stable issues:
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Also suggested some changes to his eye-drops and outpatient follow-up.
   Patient already has outpatient appointment set up
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   #Tachycardia: Likely multifocal atrial tachycardia. Patient started on
   Lopressor 12.5 mg PO BID. Will not increase as patient tolerates lasix
   drip better when blood pressure slightly increased. If patient is
   tachycardic or hypertensive later in the day with decreased sedation,
   will increase this as needed.
   -Lopressor 12.5 mg PO BID
   # Rash: Rash seems to be improving now that zosyn d/c
d.  No signs of
   DRESS.  Has some signs of folliculitis today
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   - Continue to monitor.
   #Abdominal distension: Seems to have poor motility with paralysis that
   leads to increasing bowel distention.  Will continue gentle tube feeds.
   Patient has had some loose stools today, checked C. diff to ensure that
   he is not infected given that he is on a large number of antibiotics
   and was  negative X3.  Rectal tube placed which seems to be improving
   his distention
   - Bowel regimen.
   -continue rectal tubes
   # R hand swelling
   - U/S of R arm
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.
   Prophylaxis: Subutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: peripherals, Aline, IJ Central line
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily
   Disposition: pending improved respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-18**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-22 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with Influenza PNA and ARDS.  s/p Trach  yesterday.  Also had
   EMG.  To get PEG today.
   24 Hour Events:
 OR SENT - At [**2111-12-21**] 12:45 PM
 OR RECEIVED - At [**2111-12-21**] 02:58 PM
 INVASIVE VENTILATION - STOP [**2111-12-21**] 07:14 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-20**] 08:06 AM
   Aztreonam - [**2111-12-20**] 09:06 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2111-12-21**] 11:49 AM
   Metoprolol - [**2111-12-21**] 04:16 PM
   Fentanyl - [**2111-12-21**] 06:43 PM
   Famotidine (Pepcid) - [**2111-12-21**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-22**] 12:00 AM
   Other medications:
   lopressor
   pepcid
   SSI/glargine
   propofol
   lasix
   atrovent
   calcium
   levoxyl
   chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-22**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 94 (86 - 142) bpm
   BP: 112/66(85) {89/52(68) - 147/82(110)} mmHg
   RR: 23 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.2 kg (admission): 74.8 kg
   Height: 58 Inch
   CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,057 mL
                                                                     56 mL
   PO:
   TF:
                                                                      2 mL
   IVF:
                                                                    982 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    525 mL
   Urine:
                                                                  1,400 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -843 mL
                                                                   -469 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 414 (377 - 573) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.45/32/77.[**Numeric Identifier 253**]/26/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: left pupil not reactive
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l rhonchi  )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   819 K/uL
   88
   1.0 mg/dL
   26 mEq/L
   4.8 mEq/L
   27 mg/dL
   107 mEq/L
   142 mEq/L
   23.7 %
   12.1 K/uL
        [image002.jpg]
                            [**2111-12-20**]  06:00 AM
                            [**2111-12-20**]  11:15 AM
                            [**2111-12-20**]  11:32 AM
                            [**2111-12-20**]  05:02 PM
                            [**2111-12-21**]  02:51 AM
                            [**2111-12-21**]  04:12 PM
                            [**2111-12-21**]  04:30 PM
                            [**2111-12-22**]  02:47 AM
                            [**2111-12-22**]  04:00 AM
                            [**2111-12-22**]  06:00 AM
   WBC
   13.2
   12.1
   Hct
   26.2
   23.7
   Plt
   699
   819
   Cr
   1.2
   1.0
   1.0
   TCO2
   29
   29
   29
   29
   23
   Glucose
   195
   197
   65
   159
   90
   99
   88
   Other labs: PT / PTT / INR:13.5/51.1/1.2, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Imaging: EMG:  Critical illness polyneuropathy.
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   Respiratory failure:  Influenza PNA/ARDS.  Improved.  Continue weaning
   vent.
   fevers:  low grade, no obvious infection.  WBC is stable.  Stable off
   antibiotics.
   Central line is old so will try and have a PIC placed or peripherals.
   U/E paralysis:  likely critical illness neuropathy - get PT consult.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-12-7**] 05:53 PM
   Arterial Line - [**2111-12-18**] 08:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2111-12-23 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   At around midnight, patient started desaturating in the setting of
   getting 400ml of IVF after being NPO for >24hours.  His saturation went
   to 80%, he was tachypneic to 30-40 and tachycardic to 130's.  Was alert
   and anxious.  He was put back on CMV/Assist and had to put PEEP to 12
   and FiO2 to 100% to get O2 sats up.
   Patient put in reverse Trendelenberg, lasix 80 was given, fentanyl
   boluses and versed boluses were given for sedation.  CXR showed marked
   pulmonary edema.  His settings were able to be weaned to PEEP 5 and
   FiO2 50% this morning.  Still tachycardic and tachypneic.
   Had a fever to 101.4 this morning and was pan-cultured with new CXR
   taken
 showed pulmonary edema.
 MULTI LUMEN - STOP [**2111-12-22**] 08:03 PM (IJ
 and tip cultured)
 PAN CULTURE - At [**2111-12-23**] 05:00 AM
 FEVER - 101.4
F - [**2111-12-23**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-20**] 08:06 AM
   Aztreonam - [**2111-12-20**] 09:06 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-22**] 08:00 PM
   Metoprolol - [**2111-12-23**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-12-23**] 12:45 AM
   Furosemide (Lasix) - [**2111-12-23**] 01:00 AM
   Midazolam (Versed) - [**2111-12-23**] 05:45 AM
   Fentanyl - [**2111-12-23**] 06:18 AM
   Other medications:
   Flowsheet Data as of  [**2111-12-23**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.4
C (101.1
   HR: 135 (88 - 137) bpm
   BP: 108/75(88) {84/51(67) - 185/110(141)} mmHg
   RR: 36 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 66.2 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                    905 mL
                                                                    435 mL
   PO:
             TF:
   IVF:
                                                                    905 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                  1,390 mL
   Urine:
                                                                  1,005 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                   -955 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 400) mL
   Vt (Spontaneous): 453 (360 - 453) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.51/24/89.[**Numeric Identifier 299**]/19/-1
   Ve: 15.9 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General: Alert on trach vent
   CV: NRRR no murmurs
   Pulm: coarse breath sounds and rhonchi at the bases, b/l
   Abdomen: continues to be distended, BS auscultated
   Extr: trace edema; DP present; warm and perfused
   Mental status/Neuro: more alert than previously, but not truly
   responding to commands
   Labs / Radiology
   955 K/uL
   8.7 g/dL
   116 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.7 mEq/L
   31 mg/dL
   108 mEq/L
   144 mEq/L
   26.4 %
   14.9 K/uL
        [image002.jpg]
                            [**2111-12-21**]  02:51 AM
                            [**2111-12-21**]  04:12 PM
                            [**2111-12-21**]  04:30 PM
                            [**2111-12-22**]  02:47 AM
                            [**2111-12-22**]  04:00 AM
                            [**2111-12-22**]  06:00 AM
                            [**2111-12-22**]  02:58 PM
                            [**2111-12-23**]  12:44 AM
                            [**2111-12-23**]  03:05 AM
                            [**2111-12-23**]  04:12 AM
   WBC
   13.2
   12.1
   14.9
   Hct
   26.2
   23.7
   25.2
   26.4
   Plt
   699
   819
   955
   Cr
   1.0
   1.0
   1.1
   TCO2
   29
   23
   22
   20
   Glucose
   65
   159
   90
   99
   88
   97
   116
   Other labs: PT / PTT / INR:13.5/51.1/1.2, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR this morning:
   Still diffuse patchiness likely d/t pulmonary edema vs ARDS vs
   infection.
   Microbiology: [**2111-12-23**]  Blood Culture, Routine-PENDING INPATIENT
   [**2111-12-23**]  URINE CULTURE-PENDING INPATIENT
   [**2111-12-22**]  CATHETER TIP-IV WOUND CULTURE-PENDING
   Assessment and Plan
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   .
   # New Respiratory failure: Originally ARDS/sepsis combined w/ fluid
   overload and possible bacterial pneumonia. Pt had a trach placed.  Has
   been off sedating drips for 2 days and had been doing well on pressure
   support.  Patient experienced distress in setting of receiving 400ml of
   IVF after being NPO for greater than 24 hours.  Vent settings adjusted
   and patient sedated.  Repeated CXR which showed pulmonary edema and
   gave lasix.  Bed in reverse Trendelenberg.  Patient improved saturation
   (100%FiO2 and 12 of PEEP to 50% and 5 PEEP) but is still agitated,
   tachypneic, and tachycardic.   Patient could have VAP especially in
   setting of recent trach placement and fever spike this morning.
   - Hold Lasix for now, pursue infectious source and restart diuresis
   possibly in the future.
   - F/u cultures of blood, sputum, and urine
   - Restart antibiotics: vanc, cefipime, and cipro for MRSA and double
   pseudomonas coverage
   - Nebulizer treatments and suctioning
   - Daily CXR
   - Sedation: bolus sedation with fentanyl and midazolam.
   - mini-BAL
   .
   #Fevers/leukocytosis: Febrile to 101.4 this morning.  Pan-cultured, but
   no clear source and Cx's negative this morning.  Had been spiking
   fevers recently despite clinical improvement.  Right IJ was pulled last
   night and tip will be cultured.  Currently off of antibiotics, and
   given lack of source we will not start any medications at this time.
   Has completed courses of Azithro, Peramivir, and continuing Vanc/Aztreo
   had been discussed. However, he had  received full courses of these ABx
   and it seemed reasonable to see how he did off of these; but now, given
   fever, worsening respiratory status, and lower BP, want to start
   empiric coverage.
   - Start antibiotics for empiric coverage = start vancomycin, cefepime,
   ciprofloxacin
   - Mini-BAL
   - Follow up all cultures, including catheter tip
   .
   # Acute drop in Hct: Did have a minor surgery yesterday but wouldn't
   think pt would lose a whole unit of blood.  Repeat Hcts have been
   stable.  Will continue to follow and transfuse if below 25 so that PEG
   can be placed.
   - q12 hour Hct
   -transfuse if below 25
    .
   # DM2: Was on insulin gtt until recently, but now switched to Glargine
   40U qhs and SSI. Has increasing SSI needs.
   - Will calculate insulin requirements once pt has taken a full day of
   nutrition either by PEG or by TF, in order to accurately calculate
   insulin requirements. Not today, as pt currently NPO for PEG today.
   SSI.
   .
   #PEG placement: Surgery and GI have deferred placement of PEG to IR b/c
   of h/o volvulus, low albumin, and low Hcts.  IR so far has agreed to do
   procedure, but will wait until clinically improves.
   - Reschedule gastrostomy w/ IR when improves clinically.
   # Critical illness myopathy:
   - Consult PT today
   .
   Other stable issues:
    #Renal failure: Urine output and creatinine have improved.  Has muddy
   casts on urine sediment per renal, seems to have component of ATN.  Has
   really improved with treatment and improvement of ARDS.
   - Off of lasix gtt; consider Lasix later today pending I
s and O
   - Renal team has signed off
   .
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Also suggested some changes to his eye-drops and outpatient follow-up.
   Patient already has outpatient appointment set up.
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   .
   #Tachycardia: Likely multifocal atrial tachycardia. Patient started
   previously on Lopressor; however now with borderline blood pressure.
   - Discontinue Lopressor to see if treating infection improves this.
   .
   # Rash: Rash seems to be improving now that zosyn d/c
d.  No signs of
   DRESS.  Has some signs of folliculitis today
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   - Continue to monitor.
   .
   #Abdominal distension: Seems to have poor motility with paralysis that
   leads to increasing bowel distention.  Will continue gentle tube feeds.
   Patient has had some loose stools today, checked C. diff to ensure that
   he is not infected given that he is on a large number of antibiotics
   and was negative X3.  Rectal tube placed which seems to be improving
   his distention.
   - Bowel regimen.
   -Continue rectal tube
   .
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #GERD: PPI
   .
   FEN: No IVF, replete electrolytes PRN, renal tube feeds. Consider PEG
   placement soon but not today (by IR; not by GI or surgery). NG tube
   placement today.
   Prophylaxis: Subcutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: 2 peripherals, A-line (might need to re-wire today), IJ Central
   line pulled.
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily.
   Disposition: Pending improved respiratory status.

2111-12-23 08:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with Down's syndrome, admitted with influenza A and ARDS.
   Yesterday became tachypneic tachycardia, and desaturated.  Required
   increased Peep and FiO2.   CXR with marked pulmonary edema.  Were able
   to get fluid off with lasix, but still tachycardic and tachypneic.
   Also with temp spike of 101.4.  CXR still with pulmonary edema.  IJ was
   pulled yesterday.
   24 Hour Events:
 MULTI LUMEN - STOP [**2111-12-22**] 08:03 PM
 PAN CULTURE - At [**2111-12-23**] 05:00 AM
 FEVER - 101.4
F - [**2111-12-23**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Aztreonam - [**2111-12-20**] 09:06 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-22**] 08:00 PM
   Furosemide (Lasix) - [**2111-12-23**] 01:00 AM
   Midazolam (Versed) - [**2111-12-23**] 05:45 AM
   Fentanyl - [**2111-12-23**] 06:18 AM
   Heparin Sodium (Prophylaxis) - [**2111-12-23**] 07:48 AM
   Metoprolol - [**2111-12-23**] 07:48 AM
   Other medications:
   lopressor
   pepcid
   lasix drip (off)
   calcium acetate
   miconazole
   synthroid
   chlorhexidine
   albuterol
   tylenol
   senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-23**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.2
C (100.7
   HR: 103 (88 - 137) bpm
   BP: 84/53(65) {84/51(65) - 185/110(141)} mmHg
   RR: 21 (16 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.2 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                    905 mL
                                                                    451 mL
   PO:
             TF:
   IVF:
                                                                    905 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                  1,440 mL
   Urine:
                                                                  1,005 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                   -989 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 400) mL
   Vt (Spontaneous): 453 (360 - 453) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: 7.51/24/89.[**Numeric Identifier 299**]/19/-1
   Ve: 15.1 L/min
   PaO2 / FiO2: 178
   Physical Examination:
   Sedated unresponsive.
   Lungs:  very rhoncherous
   CV: RRR
   Abd: distended, soft.
   Ext: 1: edema
   Labs / Radiology
   8.7 g/dL
   955 K/uL
   116 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.7 mEq/L
   31 mg/dL
   108 mEq/L
   144 mEq/L
   26.4 %
   14.9 K/uL
        [image002.jpg]
                            [**2111-12-21**]  02:51 AM
                            [**2111-12-21**]  04:12 PM
                            [**2111-12-21**]  04:30 PM
                            [**2111-12-22**]  02:47 AM
                            [**2111-12-22**]  04:00 AM
                            [**2111-12-22**]  06:00 AM
                            [**2111-12-22**]  02:58 PM
                            [**2111-12-23**]  12:44 AM
                            [**2111-12-23**]  03:05 AM
                            [**2111-12-23**]  04:12 AM
   WBC
   13.2
   12.1
   14.9
   Hct
   26.2
   23.7
   25.2
   26.4
   Plt
   699
   819
   955
   Cr
   1.0
   1.0
   1.1
   TCO2
   29
   23
   22
   20
   Glucose
   65
   159
   90
   99
   88
   97
   116
   Other labs: PT / PTT / INR:13.5/51.1/1.2, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   Respiratory failure:  Worsening oxygenation yesterday.  Has had ++thick
   secretions.  Will get mini-BAL and start vanco/cefepime/cipro.
   sedation:  restarted on drips.  Will try bolus sedation again and stop
   drips.
   DM:  on SSI, seems well controlled.
   Fevers:  will send C. diff.
   ICU Care
   Nutrition:
   Comments: Replace NGT and TFs.
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2111-12-24 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure/low-grade fevers
   24 Hour Events:
   - Spiked this morning at 0430 so pan-cultured him and CXR
   - Dobhoff placed --> TF's Novasource renal 25cc/hr started around 5pm,
   no residuals.
   - Mini BAL done, Cdiff collected
   - Once taking a day of TF's, will need insulin requirements calculated
   - F/u IJ tip and Cx's: negative so far
   - Stopped Lopressor
   - Restarted Vanc/Cefepime/Cipro due to fevers
   - Bolusing sedation today (no gtt) --> got Fent/Versed with Dobhoff at
   3pm, nothing since, comfortable.
   - Keep eye on AG
   - 2pm ABG: 7.51/27/93/22 --> good tidal volumes, tachypneic --> weaning
   sedation too fast? repeat ABG: 7.51/31/97/26 --> give 50/1 of
   Fent/Versed at 10pm and will repeat ABG 2 hrs later.
   - ID: Agree with ABx we started today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-23**] 08:12 PM
   Cefipime - [**2111-12-23**] 10:08 PM
   Ciprofloxacin - [**2111-12-24**] 12:26 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2111-12-23**] 07:48 AM
   Famotidine (Pepcid) - [**2111-12-23**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-24**] 12:27 AM
   Fentanyl - [**2111-12-24**] 06:04 AM
   Midazolam (Versed) - [**2111-12-24**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-24**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38
C (100.4
   HR: 112 (95 - 128) bpm
   BP: 100/58(77) {84/53(65) - 128/75(95)} mmHg
   RR: 30 (12 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.9 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                  1,385 mL
                                                                    598 mL
   PO:
             TF:
                                                                    105 mL
                                                                    165 mL
   IVF:
                                                                  1,280 mL
                                                                    433 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    380 mL
   Urine:
                                                                  2,385 mL
                                                                    330 mL
   NG:
   Stool:
                                                                    200 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                 -1,200 mL
                                                                    218 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 434 (434 - 555) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.51/29/119/23/1
   Ve: 13.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General: Alert on trach vent
   CV: NRRR no murmurs
   Pulm: coarse breath sounds and rhonchi at the bases, b/l
   Abdomen: continues to be distended, BS auscultated
   Extr: trace edema; DP present; warm and perfused
   Mental status/Neuro: more alert than previously, but not truly
   responding to commands
   Labs / Radiology
   859 K/uL
   7.9 g/dL
   182 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   26 mg/dL
   111 mEq/L
   144 mEq/L
   24.5 %
   10.1 K/uL
        [image002.jpg]
                            [**2111-12-23**]  12:44 AM
                            [**2111-12-23**]  03:05 AM
                            [**2111-12-23**]  04:12 AM
                            [**2111-12-23**]  08:37 AM
                            [**2111-12-23**]  02:08 PM
                            [**2111-12-23**]  04:13 PM
                            [**2111-12-23**]  10:02 PM
                            [**2111-12-23**]  11:54 PM
                            [**2111-12-24**]  03:11 AM
                            [**2111-12-24**]  03:37 AM
   WBC
   14.9
   10.1
   Hct
   26.4
   25.2
   24.5
   Plt
   955
   859
   Cr
   1.1
   0.9
   TCO2
   22
   20
   21
   22
   26
   24
   24
   Glucose
   97
   116
   225
   216
   201
   182
   Other labs: PT / PTT / INR:13.5/51.1/1.2, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: [**12-23**] UA negative
   Imaging:
   [**12-23**] CXR: Dobhoff in place.
   [**12-24**] CXR: unchanged
   Microbiology:
   [**12-23**] Cdiff negative
   [**12-23**] Blood and urine cx pending
   [**12-23**] sputum and mini-BAL: no organisms, culture pending
   Assessment and Plan
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   .
   # New Respiratory failure: Originally ARDS/sepsis combined w/ fluid
   overload and possible bacterial pneumonia. Pt had a trach placed.  Has
   been off sedating drips for 2 days and had been doing well on pressure
   support.  Patient experienced distress in setting of receiving 400ml of
   IVF after being NPO for greater than 24 hours.  Vent settings adjusted
   and patient sedated.  Repeated CXR which showed pulmonary edema and
   gave lasix.  Bed in reverse Trendelenberg.  Patient improved saturation
   (100%FiO2 and 12 of PEEP to 50% and 5 PEEP) but is still agitated,
   tachypneic, and tachycardic.   Patient could have VAP especially in
   setting of recent trach placement and fever spike this morning.
   - Hold Lasix for now, pursue infectious source and restart diuresis
   possibly in the future; does not clinically appear volume overloaded
   today
   - F/u cultures of blood, sputum, and urine, f/u mini-BAL
   - Continue antibiotics: vanc, cefipime, and cipro (all 3 started on
   [**12-23**]) for MRSA and double pseudomonas coverage
   - Nebulizer treatments and suctioning
   - Sedation: d/c Fentanyl and versed. Start methadone 5mg PO q8h.
   - Attempt trach-mask trial today
   - Wean down FiO2
   .
   #Fevers/leukocytosis: Febrile to 101.4 this morning.  Pan-cultured, but
   no clear source and Cx's negative this morning.  Had been spiking
   fevers recently despite clinical improvement.  Right IJ was pulled last
   night and tip will be cultured.  Currently off of antibiotics, and
   given lack of source we will not start any medications at this time.
   Has completed courses of Azithro, Peramivir, and continuing Vanc/Aztreo
   had been discussed. However, he had  received full courses of these ABx
   and it seemed reasonable to see how he did off of these; but now, given
   fever, worsening respiratory status, and lower BP, want to start
   empiric coverage.
   - Continue antibiotics for empiric coverage = vancomycin, cefepime,
   ciprofloxacin (started all 3 on [**12-23**])
   - Follow up all cultures, including catheter tip and mini-BAL
   .
   # Tachycardia: Previously appeared to have multifocal atrial
   tachycardia. Patient started previously on Lopressor; then held for
   tenuous clinical status. Tolerating HR.
   - monitor on telemetry
   .
   # Anemia: Did have a minor surgery yesterday but wouldn't think pt
   would lose a whole unit of blood.  Repeat Hcts have been stable.  Will
   continue to follow and transfuse if below 25 so that PEG can be placed.
   - q12 hour Hct
   -transfuse if below 25
   .
   # DM2: Was on insulin gtt until recently, but now switched to Glargine
   40U qhs and SSI. Has increasing SSI needs; now on [**Month/Year (2) **]
   - Re-calculate insulin requirements today
 increase glargine to 45U
   qhs.
   .
   #PEG placement: Dobhoff placed yesterday, and is now more stable
   clinically.  Surgery and GI have deferred placement of PEG to IR b/c of
   h/o volvulus, low albumin, and low Hcts.  IR so far has agreed to do
   procedure, but will wait until clinically improves.
   - Contact IR
   - [**Name2 (NI) 1851**] with Dobhoff for now
   # Critical illness myopathy:
   - F/u PT consult
   .
   Other stable issues:
    #Renal failure: Urine output and creatinine have improved.  Has muddy
   casts on urine sediment per renal, seems to have component of ATN.  Has
   really improved with treatment and improvement of ARDS.
   - Off of lasix gtt; consider Lasix later today pending I
s and O
   - Renal team has signed off
   .
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Also suggested some changes to his eye-drops and outpatient follow-up.
   Patient already has outpatient appointment set up.
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   .
   # Rash: Rash seems to be improving now that zosyn d/c
d.  No signs of
   DRESS.  Has some signs of folliculitis today
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   - Continue to monitor, especially w/ starting cefepime.
   .
   #Abdominal distension: Seems to have poor motility with paralysis that
   leads to increasing bowel distention.  Will continue gentle tube feeds.
   Patient has had some loose stools today, checked C. diff to ensure that
   he is not infected given that he is on a large number of antibiotics
   and was negative X3.  Rectal tube placed which seems to be improving
   his distention.
   - Bowel regimen.
   -Continue rectal tube
   .
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #GERD: PPI
   .
   FEN: No IVF, replete electrolytes PRN, renal tube feeds. Consider PEG
   placement soon but not today (by IR; not by GI or surgery). NG tube in
   place.
   Prophylaxis: Subcutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: 2 peripherals, A-line (might need to re-wire today), IJ Central
   line pulled. Place order for PICC to be placed tomorrow, for antibiotic
   delivery.
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily.
   Disposition: Pending improved respiratory status.

2111-12-24 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with Down's syndrome.  ARDS from Influenza PNA.  s/p Trach.
   Patient stable
   overnight.  Fever curve trending down, but still very tachypneic.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2111-12-23**] 10:08 PM
   Ciprofloxacin - [**2111-12-24**] 12:26 AM
   Vancomycin - [**2111-12-24**] 09:27 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-23**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-24**] 12:27 AM
   Midazolam (Versed) - [**2111-12-24**] 06:04 AM
   Fentanyl - [**2111-12-24**] 08:00 AM
   Other medications:
   famotadine
   insulin
   SSI
   lasix
   atrovent
   phoslo
   miconazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-24**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.3
   HR: 94 (94 - 120) bpm
   BP: 129/71(94) {100/58(77) - 129/75(95)} mmHg
   RR: 21 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.9 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                  1,385 mL
                                                                    920 mL
   PO:
             TF:
                                                                    105 mL
                                                                    266 mL
   IVF:
                                                                  1,280 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    465 mL
   Urine:
                                                                  2,385 mL
                                                                    415 mL
   NG:
   Stool:
                                                                    200 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                 -1,200 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 474 (434 - 555) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.51/29/119/23/1
   Ve: 12.4 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Eyes / Conjunctiva: right surgical pupil
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   859 K/uL
   182 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   26 mg/dL
   111 mEq/L
   144 mEq/L
   24.5 %
   10.1 K/uL
        [image002.jpg]
                            [**2111-12-23**]  12:44 AM
                            [**2111-12-23**]  03:05 AM
                            [**2111-12-23**]  04:12 AM
                            [**2111-12-23**]  08:37 AM
                            [**2111-12-23**]  02:08 PM
                            [**2111-12-23**]  04:13 PM
                            [**2111-12-23**]  10:02 PM
                            [**2111-12-23**]  11:54 PM
                            [**2111-12-24**]  03:11 AM
                            [**2111-12-24**]  03:37 AM
   WBC
   14.9
   10.1
   Hct
   26.4
   25.2
   24.5
   Plt
   955
   859
   Cr
   1.1
   0.9
   TCO2
   22
   20
   21
   22
   26
   24
   24
   Glucose
   97
   116
   225
   216
   201
   182
   Other labs: PT / PTT / INR:13.5/51.1/1.2, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Microbiology: C. diff negative.
   mini BAL: neg gram stain
   Assessment and Plan
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   Respiratory failure:  Respiratory alkalosis.  Try and wean down to TM.
   FiO2.
   fevers:  mini-BAL gram stain negative. Continue antibiotics for now.
   Sedation/agitation:  [**Month (only) 8**] be uncomfortable.  [**Month (only) 8**] be withdrawing.  Will
   start methadone 5mg tid
   DM:  increase long acting insulin
   access: will get PIC line and PEG.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-23**] 05:31 PM 25 mL/hour
   Comments: change to non-renal feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
   20 Gauge - [**2111-12-22**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2111-12-25 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   - Patient agitated and increasingly tachypneic around 4pm, increased
   PEEP with improvement.
   - Started on methadone 10mg TID and ativan 1-2mg Q3h PRN.
   - IR to place PEG tomorrow. Will be NPO after midnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-24**] 08:04 PM
   Cefipime - [**2111-12-25**] 01:00 AM
   Ciprofloxacin - [**2111-12-25**] 01:03 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2111-12-24**] 08:00 AM
   Lorazepam (Ativan) - [**2111-12-24**] 04:09 PM
   Famotidine (Pepcid) - [**2111-12-24**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-25**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-25**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 90 (87 - 116) bpm
   BP: 117/64(77) {105/57(69) - 127/76(89)} mmHg
   RR: 16 (16 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.3 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                  1,830 mL
                                                                    305 mL
   PO:
             TF:
                                                                    600 mL
                                                                      1 mL
   IVF:
                                                                  1,170 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    203 mL
   Urine:
                                                                    825 mL
                                                                    203 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                    955 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (325 - 502) mL
   PS : 12 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 10.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   844 K/uL
   7.4 g/dL
   98 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   22 mg/dL
   114 mEq/L
   145 mEq/L
   23.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2111-12-23**]  03:05 AM
                            [**2111-12-23**]  04:12 AM
                            [**2111-12-23**]  08:37 AM
                            [**2111-12-23**]  02:08 PM
                            [**2111-12-23**]  04:13 PM
                            [**2111-12-23**]  10:02 PM
                            [**2111-12-23**]  11:54 PM
                            [**2111-12-24**]  03:11 AM
                            [**2111-12-24**]  03:37 AM
                            [**2111-12-25**]  03:01 AM
   WBC
   14.9
   10.1
   8.3
   Hct
   26.4
   25.2
   24.5
   23.2
   Plt
   955
   859
   844
   Cr
   1.1
   0.9
   0.9
   TCO2
   20
   21
   22
   26
   24
   24
   Glucose
   116
   225
   216
   201
   182
   98
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR [**2111-12-24**]
   The tracheostomy tip is at the midline with its tip 3 cm above the
   carina.
   The Dobbhoff tube tip is in the prepyloric location distal stomach, no
   change
   in extensive parenchymal opacities in cardiomediastinal silhouette is
   demonstrated in the short-term interval, thus the potentially present
   volume
   overload did not significantly change since the prior study.
   Microbiology: All cultures NTD; some PMN in sputum
   Assessment and Plan
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   .
   # Respiratory failure: Originally ARDS/sepsis combined w/ fluid
   overload and possible bacterial pneumonia. Pt had a trach placed.  Has
   been off sedating drips for 2 days and had been doing well on pressure
   support.  This morning he is tachypneic and alkalotic.  This does not
   change with decreasing pressure support.  We will tolerate this for
   now, and attempt to have more uniform sedation with long-acting
   methadone rather than bolusing fentanyl once an hour.
   - Start methadone 10mg TID
   - F/u cultures of blood, sputum, and urine, f/u mini-BAL
   - Continue antibiotics: vanc, cefipime, and cipro (all 3 started on
   [**12-23**]) for MRSA and double pseudomonas coverage
   - Nebulizer treatments and suctioning
   - Attempt trach-mask trial today
   - Wean down FiO2
   .
   #Fevers/leukocytosis: Fever curve and leukocytosis improved with
   antibiotics (on vanc, cipro and cefepime) and CV line removal. Had
   completed courses of Azithro, Peramivir, vanco and aztreonam for
   bacterial overgrowth of pneumonia.  We will continue all antibiotics
   for now and consider narrowing to single pseudomonal coverage if he
   remains afebrile.
   - Continue antibiotics for empiric coverage = vancomycin, cefepime,
   ciprofloxacin (started all 3 on [**12-23**])
   - Follow up all cultures, including catheter tip and mini-BAL
   .
   # DM2: Was on insulin gtt until recently, but now switched to Glargine
   40U qhs and SSI. Has increasing SSI needs; now on tubefeeds
   - Re-calculate insulin requirements today
 increased glargine to 45U
   qhs.
   .
   # Tachycardia: Previously appeared to have multifocal atrial
   tachycardia. Patient started previously on Lopressor; then held for
   tenuous clinical status. Today he is still tachycardic to the 80-110's,
   but we will tolerate that for the time being.
   - monitor on telemetry
   .
   # Anemia: Hematocrits stable for several days now after trending down
   on admission.  Will continue to monitor daily.
   -transfuse if below 21
   .
   #PEG placement: Dobhoff placed yesterday, and is now more stable
   clinically.  Surgery and GI have deferred placement of PEG to IR b/c of
   h/o volvulus, low albumin, and low Hcts.  IR so far has agreed to do
   procedure today.
   - Contact IR for scheduling
   - Nutrition consult for PEG feeds
   .
   # Critical illness myopathy:
   - F/u PT consult
   .
   Other stable issues:
    #Renal failure: Urine output and creatinine have improved.  Had
   component of ATN with muddy casts in urine.  Has really improved with
   treatment and improvement of ARDS.
   - Off of lasix gtt; consider Lasix later today pending I
s and O
   - Renal team has signed off
   .
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Also suggested some changes to his eye-drops and outpatient follow-up.
   Patient already has outpatient appointment set up.
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   .
   # Rash: Rash improved after zosyn d/c
d.  No signs of DRESS.  Did have
   some follicles which are improving.
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   - Continue to monitor, especially w/ starting cefepime.
   .
   #Abdominal distension: Had poor motility with paralysis causing bowel
   distention.  Will continue gentle tube feeds. Patient has had some
   loose stools today, checked C. diff to ensure that he is not infected
   given that he is on a large number of antibiotics and was negative X3.
   Rectal tube placed which seems to be improving his distention.
   - Bowel regimen.
   - Continue rectal tube
   .
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   .
   #GERD: PPI
   .
   FEN: No IVF, replete electrolytes PRN, renal tube feeds. PEG to be
   placed by IR. Dobhoff in place for now.
   Prophylaxis: Subcutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: 2 peripherals, A-line (might need to re-wire today). Placed
   order for PICC to be placed tomorrow, for antibiotic delivery.
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily.
   Disposition: Pending improved respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
   20 Gauge - [**2111-12-22**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-25 12:41:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with Down's syndrome, admitted with influenza PNA and ARDS.
   Doing better.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2111-12-25**] 01:00 AM
   Ciprofloxacin - [**2111-12-25**] 01:03 AM
   Vancomycin - [**2111-12-25**] 11:57 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-12-24**] 04:09 PM
   Famotidine (Pepcid) - [**2111-12-24**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-25**] 12:07 AM
   Fentanyl - [**2111-12-25**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-25**] 12:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 87 (80 - 116) bpm
   BP: 109/59(79) {86/50(66) - 129/73(91)} mmHg
   RR: 13 (13 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.3 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                  1,830 mL
                                                                    626 mL
   PO:
             TF:
                                                                    600 mL
                                                                      1 mL
   IVF:
                                                                  1,170 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    355 mL
   Urine:
                                                                    825 mL
                                                                    355 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                    955 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 646 (325 - 646) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: right pupil scarred
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   844 K/uL
   98 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.9 mEq/L
   22 mg/dL
   114 mEq/L
   145 mEq/L
   23.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2111-12-23**]  03:05 AM
                            [**2111-12-23**]  04:12 AM
                            [**2111-12-23**]  08:37 AM
                            [**2111-12-23**]  02:08 PM
                            [**2111-12-23**]  04:13 PM
                            [**2111-12-23**]  10:02 PM
                            [**2111-12-23**]  11:54 PM
                            [**2111-12-24**]  03:11 AM
                            [**2111-12-24**]  03:37 AM
                            [**2111-12-25**]  03:01 AM
   WBC
   14.9
   10.1
   8.3
   Hct
   26.4
   25.2
   24.5
   23.2
   Plt
   955
   859
   844
   Cr
   1.1
   0.9
   0.9
   TCO2
   20
   21
   22
   26
   24
   24
   Glucose
   116
   225
   216
   201
   182
   98
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   Respiratory failure:  Slow improvement.  Continue to wean PSV as
   tolerated.
   MS:  much more interactive today.  Continue methadone
   DM:  continue FSBG
   PEG placed today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
   20 Gauge - [**2111-12-22**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2111-12-26 08:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2111-12-25**] 09:00 AM
   [**12-24**]
   - Patient agitated and increasingly tachypneic around 4pm, increased
   PEEP with improvement.
   - Started on methadone 10mg TID and ativan 1-2mg Q3h PRN.
   - IR to place PEG tomorrow. Will be NPO after midnight.
   [**12-25**]
   - PEG placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-25**] 11:57 AM
   Cefipime - [**2111-12-26**] 12:03 AM
   Ciprofloxacin - [**2111-12-26**] 01:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2111-12-25**] 10:00 AM
   Famotidine (Pepcid) - [**2111-12-25**] 10:26 PM
   Furosemide (Lasix) - [**2111-12-26**] 12:02 AM
   Dextrose 50% - [**2111-12-26**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-26**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 86 (80 - 115) bpm
   BP: 94/50(67) {76/49(62) - 129/74(89)} mmHg
   RR: 10 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.1 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                  1,033 mL
                                                                    319 mL
   PO:
             TF:
                                                                      1 mL
   IVF:
                                                                  1,032 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  1,785 mL
                                                                  1,260 mL
   Urine:
                                                                  1,785 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                      -752  --> negative 3L through LOS mL
                                                                   -941 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 609 (522 - 646) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.49/34/124/24/3   THIS AM
   Ve: 7.1 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Awake, alert, answering questions but with trach in so not able to
   speak. No distress. Smiling. Lungs with very coarse bilateral rhonchi.
   Heart RRR, no murmurs heard. Abd distended but not tight or tender. No
   BLE edema
   Labs / Radiology
   859 K/uL
   7.7 g/dL
   75 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.0 mEq/L
   24 mg/dL
   108 mEq/L
   142 mEq/L
   23.5 %
   8.0 K/uL
        [image002.jpg]
                            [**2111-12-23**]  10:02 PM
                            [**2111-12-23**]  11:54 PM
                            [**2111-12-24**]  03:11 AM
                            [**2111-12-24**]  03:37 AM
                            [**2111-12-25**]  03:01 AM
                            [**2111-12-25**]  02:38 PM
                            [**2111-12-25**]  02:47 PM
                            [**2111-12-25**]  08:46 PM
                            [**2111-12-26**]  03:01 AM
                            [**2111-12-26**]  03:13 AM
   WBC
   10.1
   8.3
   8.0
   Hct
   24.5
   23.2
   22.7
   23.3
   23.5
   Plt
   [**Telephone/Fax (3) 10215**]
   Cr
   0.9
   0.9
   0.9
   1.1   STABLE
   TCO2
   26
   24
   24
   27
   Glucose
   [**Telephone/Fax (3) 10216**]82
   98
   95
   75
   Other labs: PT / PTT / INR:14.7/71.7/1.3   YESTERDAY , ALT / AST:31/46,
   Alk Phos / T Bili:115/0.8, Amylase / Lipase:34/10,
   Differential-Neuts:79.0 %, Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: [**12-25**] Vanco 26.3
   Imaging: [**12-26**] CXR with worsening effusions bilaterally
   Microbiology: [**12-24**] Bcx negative to date
   [**12-23**] Cdiff negative
   [**12-23**] sputum and mini BAL negative (OP flora), UCX negative
   Assessment and Plan
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   # Respiratory failure: Originally ARDS/sepsis combined w/ fluid
   overload and possible bacterial pneumonia. Pt had a trach placed.  Has
   been off sedating drips for 3 days and had been doing well on pressure
   support.  This morning he continues to be respiratorily alkalotic. Has
   started on Methadone to try and decrease his tachypnea, instead of
   bolusing sedatives.
   - Continue methadone 10mg TID to address tachypnea
   - F/u ABG this afternoon
   - Trach mask trial later today
   - F/u cultures of blood, sputum, and urine, f/u mini-BAL
   - Continue antibiotics: vanc, cefipime, and cipro (all 3 started on
   [**12-23**] --> today is day 4) for MRSA and double pseudomonas coverage
   - Nebulizer treatments and suctioning
   - Wean down FiO2
   - 2L diuresis again today given worsening effusions
   #Fevers/leukocytosis: Fever curve and leukocytosis improved with
   antibiotics (on vanc, cipro and cefepime) and CV line removal. Had
   completed courses of Azithro, Peramivir, vanco and aztreonam for
   bacterial overgrowth of pneumonia.  We will continue all antibiotics
   for now and consider narrowing to single pseudomonal coverage if he
   remains afebrile.
   - Continue antibiotics for empiric coverage = vancomycin, cefepime,
   ciprofloxacin (started all 3 on [**12-23**])
   - Follow up all cultures, including catheter tip and mini-BAL
   # DM2: Was on insulin gtt until recently, but now switched to Glargine
   40U qhs and SSI. Has increasing SSI needs; now on tubefeeds
   - Re-calculate insulin requirements today
 increased glargine to 45U
   qhs.
   - Watch BS's through the day and increase accordingly
   # Tachycardia: Previously appeared to have multifocal atrial
   tachycardia. Patient started previously on Lopressor; then held for
   tenuous clinical status. Today he is still tachycardic to the 80-110's,
   but we will tolerate that for the time being.
   - monitor on telemetry
   # Anemia: Hematocrits stable for several days now after trending down
   on admission.  Will continue to monitor daily.
   -transfuse if below 21
   #PEG placement: Currently getting Novasource renal
   # Critical illness myopathy:
   - F/u PT consult
   Other stable issues:
    #Renal failure: Urine output and creatinine have improved.  Had
   component of ATN with muddy casts in urine.  Has really improved with
   treatment and improvement of ARDS.
   - Off of lasix gtt; consider Lasix later today pending I
s and O
   - Renal team has signed off
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Also suggested some changes to his eye-drops and outpatient follow-up.
   Patient already has outpatient appointment set up.
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   # Rash: Rash improved after zosyn d/c
d.  No signs of DRESS.  Did have
   some follicles which are improving.
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   - Continue to monitor, especially w/ starting cefepime.
   #Abdominal distension: Had poor motility with paralysis causing bowel
   distention.  Will continue gentle tube feeds. Patient has had some
   loose stools today, checked C. diff to ensure that he is not infected
   given that he is on a large number of antibiotics and was negative X3.
   Rectal tube placed which seems to be improving his distention.
   - Bowel regimen.
   - Continue rectal tube
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.
   Prophylaxis: Subcutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: 1 peripherals, A-line (might need to re-wire today). Placed
   order for PICC to be placed tomorrow, for antibiotic delivery.
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily.
   Disposition: Pending improved respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
   20 Gauge - [**2111-12-22**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-26 13:59:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, altered mental
   status, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues to improve slowly following trach and PEG. On PSV
   [**11-2**] with FIO2 0.5. Oxygenation adequate.
   WBC stable.
   24 Hour Events:
 PEG INSERTION - At [**2111-12-25**] 09:00 AM
   Patient unable to provide history: Encephalopathy, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-25**] 11:57 AM
   Ciprofloxacin - [**2111-12-26**] 01:00 AM
   Cefipime - [**2111-12-26**] 11:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-26**] 12:02 AM
   Dextrose 50% - [**2111-12-26**] 05:57 AM
   Famotidine (Pepcid) - [**2111-12-26**] 08:53 AM
   Heparin Sodium (Prophylaxis) - [**2111-12-26**] 08:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-26**] 01:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 89 (81 - 115) bpm
   BP: 112/64(83) {76/49(62) - 112/74(83)} mmHg
   RR: 13 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.1 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                  1,033 mL
                                                                    503 mL
   PO:
             TF:
                                                                      1 mL
   IVF:
                                                                  1,032 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  1,785 mL
                                                                  1,520 mL
   Urine:
                                                                  1,785 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -752 mL
                                                                 -1,017 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 609 (522 - 609) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.49/34/124/24/3
   Ve: 7.1 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, Trach
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Soft heart sounds largely obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , Rhonchorous: Diffuse bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   859 K/uL
   75 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.0 mEq/L
   24 mg/dL
   108 mEq/L
   142 mEq/L
   23.5 %
   8.0 K/uL
        [image002.jpg]
                            [**2111-12-23**]  10:02 PM
                            [**2111-12-23**]  11:54 PM
                            [**2111-12-24**]  03:11 AM
                            [**2111-12-24**]  03:37 AM
                            [**2111-12-25**]  03:01 AM
                            [**2111-12-25**]  02:38 PM
                            [**2111-12-25**]  02:47 PM
                            [**2111-12-25**]  08:46 PM
                            [**2111-12-26**]  03:01 AM
                            [**2111-12-26**]  03:13 AM
   WBC
   10.1
   8.3
   8.0
   Hct
   24.5
   23.2
   22.7
   23.3
   23.5
   Plt
   [**Telephone/Fax (3) 10215**]
   Cr
   0.9
   0.9
   0.9
   1.1
   TCO2
   26
   24
   24
   27
   Glucose
   [**Telephone/Fax (3) 10216**]82
   98
   95
   75
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR: lordotic view. Possibly some mild obscuring of
   hemi-diaphragm bilaterally; may be technique with lordotic film.
   Diffuse increase in interstitial markings unchanged.
   Assessment and Plan
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   =====================================
   Patient now on trach mask and very comfortable. O2 sats 100%. Has
   moderate amount of milky secretions. Continue on trach mask as
   tolerated.
   Start tube feeds later today via PEG and remove NG tube.
   Antibiotics started on [**12-23**] for a temp spike. WBC has stayed down.
   Cultures have been negative. Consider stopping antibiotics with no
   definitive infection identfiied.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
   20 Gauge - [**2111-12-22**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2111-12-27 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: recovering from ARDS
   24 Hour Events:
   - discontinued vanc, cefepime, cipro (as >72 hours afebrile, and no
   positive cultures)
   - trach mask trial  --> pm ABG: 7.44/37/160
   - start rehab screening
   - decreased qhs Glargine to 35U due to low BS's through the day
   - Started TF's through PEG today, d/c'd Dobhoff
   [**12-27**]
   - Low UOP so bolused 500cc --> f/u UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-25**] 11:57 AM
   Cefipime - [**2111-12-26**] 11:30 AM
   Ciprofloxacin - [**2111-12-26**] 12:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-26**] 08:00 PM
   Dextrose 50% - [**2111-12-26**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-27**] 01:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-27**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 102 (85 - 109) bpm
   BP: 76/61(69) {69/50(64) - 112/72(83)} mmHg
   RR: 13 (10 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.1 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                    876 mL
                                                                    729 mL
   PO:
             TF:
                                                                     96 mL
                                                                    147 mL
   IVF:
                                                                    670 mL
                                                                    582 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    160 mL
   Urine:
                                                                  2,000 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,124 mL
                                                                    569 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 609 (609 - 609) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.42/39/114/21/1
   Ve: 7.1 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Awake, alert, answering questions but with trach in so not able to
   speak. No distress. Smiling. Lungs with very coarse bilateral rhonchi.
   Heart RRR, no murmurs heard. Abd distended but not tight or tender. No
   BLE edema.
   Labs / Radiology
   866 K/uL
   7.4 g/dL
   98 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.2 mEq/L
   24 mg/dL
   109 mEq/L
   140 mEq/L
   24.4 %
   7.4 K/uL
        [image002.jpg]
                            [**2111-12-24**]  03:37 AM
                            [**2111-12-25**]  03:01 AM
                            [**2111-12-25**]  02:38 PM
                            [**2111-12-25**]  02:47 PM
                            [**2111-12-25**]  08:46 PM
                            [**2111-12-26**]  03:01 AM
                            [**2111-12-26**]  03:13 AM
                            [**2111-12-26**]  10:15 PM
                            [**2111-12-27**]  03:26 AM
                            [**2111-12-27**]  03:43 AM
   WBC
   8.3
   8.0
   7.4
   Hct
   23.2
   22.7
   23.3
   23.5
   24.4
   Plt
   [**Telephone/Fax (3) 10236**]
   Cr
   0.9
   0.9
   1.1
   1.0
   TCO2
   24
   27
   27
   26
   Glucose
   182
   98
   95
   75
   98
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: [**12-26**] CXR: suggestive of fluid overload or CHF.
   [**12-27**] CXR: unchanged
   Microbiology: [**12-24**] blood cx pending
   Multiple sputum cx w/ yeast
   Assessment and Plan
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   # Respiratory failure: Originally ARDS/sepsis combined w/ fluid
   overload and possible bacterial pneumonia. Pt had a trach placed.  Has
   been off sedating drips for several days and had been doing well on
   pressure support.  Has started on Methadone to try and decrease his
   tachypnea, instead of bolusing sedatives, and also as a wean from the
   sedation that he has been on for the past several weeks.
   - Continue methadone 10mg TID to address tachypnea
   - F/u ABG this afternoon
   - Trach mask trial later today
   - F/u cultures of blood, sputum, and urine, f/u mini-BAL
   - Will d/c ABx today as we have no clear source that we were treating
   - Nebulizer treatments and suctioning
   - Wean down FiO2
   #Fevers/leukocytosis: Fever curve and leukocytosis improved with
   antibiotics (on vanc, cipro and cefepime) and CV line removal. Had
   completed courses of Azithro, Peramivir, vanco and aztreonam for
   bacterial overgrowth of pneumonia, was then restarted on
   Vanc/Cefepime/Cipro.
   - Will d/c ABx as above as we have no clear source that we are
   treating.
   - Follow up all cultures, including catheter tip and mini-BAL
   # DM2: Was on insulin gtt until recently, but now switched to Glargine
   40U qhs and SSI. Has increasing SSI needs; now on tubefeeds
   - Glargine has been recently increased to 45 qhs
   - Watch BS's through the day and increase accordingly
   # Tachycardia: Previously appeared to have multifocal atrial
   tachycardia. Patient started previously on Lopressor; then held for
   tenuous clinical status.
   - monitor on telemetry
   # Anemia: Hematocrits stable for several days now after trending down
   on admission.  Will continue to monitor daily.
   -transfuse if below 21
   #PEG placement: Currently getting Novasource renal
   # Critical illness myopathy:
   - F/u PT consult
   Other stable issues:
    #Renal failure: Urine output and creatinine have improved.  Had
   component of ATN with muddy casts in urine.  Has really improved with
   treatment and improvement of ARDS.
   - Renal team has signed off
   - Cr within baseline
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Also suggested some changes to his eye-drops and outpatient follow-up.
    Patient already has outpatient appointment set up.
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   # Rash: Rash improved after zosyn d/c
d.  No signs of DRESS.  Did have
   some follicles which are improving.
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.
   Prophylaxis: Subcutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: 1 peripherals, A-line. Placed order for PICC to be placed
   tomorrow, for antibiotic delivery.
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily.
   Disposition: Pending improved respiratory status.

2111-12-27 11:20:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, hypotension,
   acute renal faiulre
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did well yesterday on trach mask and again this morning.  Off vent all
   night. Requires suctioning fairly frequently.
   Received some fluid boluses for decreased urine output. Creat remains
   normal; mildly elevated BUN/creat ratio. Urine output 30-40 cc/hr this
   AM.
   WBC is coming down.
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-25**] 11:57 AM
   Cefipime - [**2111-12-26**] 11:30 AM
   Ciprofloxacin - [**2111-12-26**] 12:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-26**] 08:00 PM
   Dextrose 50% - [**2111-12-26**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-27**] 09:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-27**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 108 (85 - 109) bpm
   BP: 98/82(90) {69/50(64) - 112/82(90)} mmHg
   RR: 16 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.1 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                    876 mL
                                                                    919 mL
   PO:
             TF:
                                                                     96 mL
                                                                    253 mL
   IVF:
                                                                    670 mL
                                                                    606 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    295 mL
   Urine:
                                                                  2,000 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,124 mL
                                                                    624 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 95%
   ABG: 7.42/39/114/21/1
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Left mid zone, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous:
   Right greater than left)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess fully, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   866 K/uL
   98 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.2 mEq/L
   24 mg/dL
   109 mEq/L
   140 mEq/L
   24.4 %
   7.4 K/uL
        [image002.jpg]
                            [**2111-12-24**]  03:37 AM
                            [**2111-12-25**]  03:01 AM
                            [**2111-12-25**]  02:38 PM
                            [**2111-12-25**]  02:47 PM
                            [**2111-12-25**]  08:46 PM
                            [**2111-12-26**]  03:01 AM
                            [**2111-12-26**]  03:13 AM
                            [**2111-12-26**]  10:15 PM
                            [**2111-12-27**]  03:26 AM
                            [**2111-12-27**]  03:43 AM
   WBC
   8.3
   8.0
   7.4
   Hct
   23.2
   22.7
   23.3
   23.5
   24.4
   Plt
   [**Telephone/Fax (3) 10236**]
   Cr
   0.9
   0.9
   1.1
   1.0
   TCO2
   24
   27
   27
   26
   Glucose
   182
   98
   95
   75
   98
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ===================
   Doing well off of vent for the past 24 hours, but still has moderate
   amount of secretions that require frequent suctioning. Has completed
   antibiotics. Maintain fluids even to slightly positivel Suctioning as
   required.
   Renal function normal. Electrolytes acceptable.
   Adjust insulin given episode of hypoglycemia.
   Hct stable. Not at transfusion threshold. No evidence of bleeding.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-27**] 09:10 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
   20 Gauge - [**2111-12-22**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2111-12-28 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2111-12-27**] 09:00 AM
   Continue Trach collar.  Unassisted spontaneous breathing.  Patient on
   trach mask 40%, sp02 > 95%.  Patient with large amount thick yellow or
   slightly blood tinged secretions, strong productive cough.  Suctioned
   every 2-4 hours.
   ** Pt also seen by IV RNs today for attempt at bedside PICC placement.
   Unable to attain a PICC, a midline was placed. Pt does NOT have an
   order to send to IR as a PICC might not be necessary
no TPN, no IV
   antibiotics, no need for long term hydration/lab draws. **
   - discontinued vanc, cefepime, cipro (as >72 hours afebrile, and no
   positive cultures)
   - start rehab screening
   - decreased qhs Glargine to 35U due to low BS's through the day
   - Started TF's through PEG today, d/c'd Dobhoff
   [**12-27**]
   - Low UOP so bolused 500cc --> f/u UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-25**] 11:57 AM
   Cefipime - [**2111-12-26**] 11:30 AM
   Ciprofloxacin - [**2111-12-26**] 12:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-28**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-28**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 92 (91 - 110) bpm
   BP: 88/76(82) {82/57(69) - 133/128(131)} mmHg
   RR: 12 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.5 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                  1,426 mL
                                                                    216 mL
   PO:
             TF:
                                                                    575 mL
                                                                    180 mL
   IVF:
                                                                    670 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                     90 mL
   Urine:
                                                                    660 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    766 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Awake, alert, answering questions but with trach in so not able to
   speak. No distress. Smiling. Lungs with very coarse bilateral rhonchi.
   Heart RRR, no murmurs heard. Abd distended but not tight or tender. No
   BLE edema.
   Labs / Radiology
   887 K/uL
   7.3 g/dL
   147 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   23 mg/dL
   113 mEq/L
   143 mEq/L
   22.5 %
   6.6 K/uL
        [image002.jpg]
                            [**2111-12-25**]  03:01 AM
                            [**2111-12-25**]  02:38 PM
                            [**2111-12-25**]  02:47 PM
                            [**2111-12-25**]  08:46 PM
                            [**2111-12-26**]  03:01 AM
                            [**2111-12-26**]  03:13 AM
                            [**2111-12-26**]  10:15 PM
                            [**2111-12-27**]  03:26 AM
                            [**2111-12-27**]  03:43 AM
                            [**2111-12-28**]  02:47 AM
   WBC
   8.3
   8.0
   7.4
   6.6
   Hct
   23.2
   22.7
   23.3
   23.5
   24.4
   22.5
   Plt
   [**Telephone/Fax (3) 10249**]87
   Cr
   0.9
   0.9
   1.1
   1.0
   1.0
   TCO2
   27
   27
   26
   Glucose
   98
   95
   75
   98
   147
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: [**2111-12-27**] 03:43a
   ---------------------------------------------------
   pH 7.42 pCO2 39 pO2 114 HCO3 26
   Imaging: [**12-28**] CXR pending
   Microbiology: [**12-24**] bcx pending
   [**12-23**] stool cx negative
   [**12-23**] mini-bal 2+PMN, no microorg. cx negative.
   [**12-23**] sputum:  gram stain 2+PMN no microorg.  cx sparse yeast.
   [**12-23**] uring cx neg
   [**12-23**] bcx ntd
   Assessment and Plan
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   # Respiratory failure:  Now on trach collar and tolerating well.
   Mildly tachypneic when interacting with people, but otherwise has RR
   down to 12-13.  Will start to wean methadone.  Now off of antibiotics
   and afebrile.  Still requiring frequent suctioning of thick secretions,
   but has a good cough.
   - wean methadone to 7.5mg TID
   - Nebulizer treatments and suctioning
   - Wean down FiO2
   #Fevers/leukocytosis: Fever curve and leukocytosis improved with
   antibiotics (on vanc, cipro and cefepime) and CV line removal. Had
   completed courses of Azithro, Peramivir, vanco and aztreonam for
   bacterial overgrowth of pneumonia, was then restarted on
   Vanc/Cefepime/Cipro, which was stopped yesterday b/c there was no clear
   source for his recent fevers.
   - follow-up remaining pending cultures.
   # DM2: Mildly hypoglycemic overnight, now stable.  Recently restarted
   tubefeeds, which are now at goal.
   Glargine reduced to 35units QHS.
   - Watch BS's through the day tomorrow.
   # Tachycardia: Previously appeared to have multifocal atrial
   tachycardia. Patient started previously on Lopressor; then held for
   tenuous clinical status.
   - monitor on telemetry
   # Anemia: Hematocrits stable for several days now after trending down
   on admission.  Will continue to monitor daily.
   -transfuse if below 21
   # Thrombocytosis: patient has had stably high platelet counts, which is
   new on this admission and likely reactive.
   - monitor daily.
   #PEG placement: Currently getting Novasource renal
   # Critical illness myopathy:
   - F/u PT consult
    #Renal failure: Urine output and creatinine have improved.  Had
   component of ATN with muddy casts in urine.  Has really improved with
   treatment and improvement of ARDS.
   - Renal team has signed off
   - Cr within baseline
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Patient already has outpatient appointment set up.
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   # Rash: Rash improved after zosyn d/c
d.  No signs of DRESS.  Did have
   some follicles which are improving.
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here.
   #GERD: PPI
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.
   Prophylaxis: Subcutaneous heparin; pneumoboots, PPI and bowel regimen
   Access: 1 peripheral, A-line. Mid-line (was supposed to be PICC, but
   would not advance fully).
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily.
   Disposition: Pending improved respiratory status.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-28**] 05:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
   20 Gauge - [**2111-12-22**] 12:00 PM
   Midline - [**2111-12-27**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-28 10:41:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with Influenza PNA/ARDs.  s/p T+G.  doing well, has been on
   trach mask
   24 Hour Events:
 MIDLINE - START [**2111-12-27**] 09:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-25**] 11:57 AM
   Cefipime - [**2111-12-26**] 11:30 AM
   Ciprofloxacin - [**2111-12-26**] 12:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-28**] 08:27 AM
   Other medications:
   miconazole
   prednisone/tobramycin eye drops
   SSI
   famotadine
   atrovent/albuterol
   levoxyl
   methadone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, No(t) Dyspnea, +secretions
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2111-12-28**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 89 (89 - 110) bpm
   BP: 96/66(75) {82/57(69) - 133/128(131)} mmHg
   RR: 14 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.5 kg (admission): 74.8 kg
   Height: 58 Inch
             Total In:
                                                                  1,426 mL
                                                                    374 mL
   PO:
             TF:
                                                                    575 mL
                                                                    262 mL
   IVF:
                                                                    670 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    280 mL
   Urine:
                                                                    660 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    766 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: right cornea opacified
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   887 K/uL
   147 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   23 mg/dL
   113 mEq/L
   143 mEq/L
   22.5 %
   6.6 K/uL
        [image002.jpg]
                            [**2111-12-25**]  03:01 AM
                            [**2111-12-25**]  02:38 PM
                            [**2111-12-25**]  02:47 PM
                            [**2111-12-25**]  08:46 PM
                            [**2111-12-26**]  03:01 AM
                            [**2111-12-26**]  03:13 AM
                            [**2111-12-26**]  10:15 PM
                            [**2111-12-27**]  03:26 AM
                            [**2111-12-27**]  03:43 AM
                            [**2111-12-28**]  02:47 AM
   WBC
   8.3
   8.0
   7.4
   6.6
   Hct
   23.2
   22.7
   23.3
   23.5
   24.4
   22.5
   Plt
   [**Telephone/Fax (3) 10249**]87
   Cr
   0.9
   0.9
   1.1
   1.0
   1.0
   TCO2
   27
   27
   26
   Glucose
   98
   95
   75
   98
   147
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   Respiratory failure:  Doing very well.  S+S eval for PMV.
   pain/agitation:  slow methadone wean.
   tachcardia:  HR well controlled off lopressor
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-28**] 09:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
   20 Gauge - [**2111-12-22**] 12:00 PM
   Midline - [**2111-12-27**] 09:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments: being screened for rehab
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2111-12-29 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2111-12-28**] 04:28 PM
   - PMV placed (Passy-Muir Valve)
   - Awaiting insurance placement for [**Hospital1 1884**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2111-12-26**] 11:30 AM
   Ciprofloxacin - [**2111-12-26**] 12:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-28**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-29**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 96 (86 - 115) bpm
   BP: 94/69(75) {84/40(49) - 119/72(84)} mmHg
   RR: 28 (9 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.5 kg (admission): 74.8 kg
   Height: 58 Inch
                  Total In:
                                                                    820 mL
                                                                    166 mL
   PO:
                  TF:
                                                                    600 mL
                                                                    166 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                    230 mL
   Urine:
                                                                    535 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen:  Awake, alert, answering questions verbally now. No distress.
   Interactive. Denies pain or SOB.
   CV:  RRR, no m/g/r.
   Pulm:  Lungs with coarse bilateral rhonchi.
   Abd:  Soft, NT/ND, +BS.
   Extr:  No pedal edema. Hematomas on fingertips, non-TTP.
   Labs / Radiology
   873 K/uL
   7.4 g/dL
   153 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.7 mEq/L
   24 mg/dL
   110 mEq/L
   143 mEq/L
   23.6 %
   6.2 K/uL
        [image002.jpg]
                            [**2111-12-25**]  02:38 PM
                            [**2111-12-25**]  02:47 PM
                            [**2111-12-25**]  08:46 PM
                            [**2111-12-26**]  03:01 AM
                            [**2111-12-26**]  03:13 AM
                            [**2111-12-26**]  10:15 PM
                            [**2111-12-27**]  03:26 AM
                            [**2111-12-27**]  03:43 AM
                            [**2111-12-28**]  02:47 AM
                             [**2111-12-29**]  02:50 AM
   WBC
   8.0
   7.4
   6.6
   6.2
   Hct
   22.7
   23.3
   23.5
   24.4
   22.5
   23.6
   Plt
   [**Telephone/Fax (3) 10274**]73
   Cr
   0.9
   1.1
   1.0
   1.0
   1.0
   TCO2
   27
   27
   26
   Glucose
   95
   75
   98
   147
   153
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   No new micro data.
   CXR: (my read)
 mild increase haze at left costo-phrenic angle, but no
   significant change. Tracheostomy tube placement unchanged.
   Assessment and Plan
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ICU Care
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   # Respiratory failure:  Now on trach collar and tolerating well.
   Mildly tachypneic when interacting with people, but otherwise has RR
   down to 12-13.  Will start to wean methadone.  Now off of antibiotics
   and afebrile.  Still requiring frequent suctioning of thick secretions,
   but has a good cough.  FIO2 weaned down maximally to 35-40%.
   - Continue to wean methadone from 7.5mg TID to 5mg TID, will slowly
   wean down to zero over next few days.
   - Continue nebulizer treatments and suctioning
   .
   #Fevers/leukocytosis: Fever curve and leukocytosis improved with
   antibiotics (on vanc, cipro and cefepime) and CV line removal. Had
   completed courses of Azithro, Peramivir, vanco and aztreonam for
   bacterial overgrowth of pneumonia, was then restarted on
   Vanc/Cefepime/Cipro, which was stopped yesterday b/c there was no clear
   source for his recent fevers.
   - follow-up remaining pending cultures; NTD
   # DM2: Mildly hypoglycemic overnight, now stable.  Recently restarted
   tubefeeds, which are now at goal.
   Glargine reduced to 35units QHS.   Blood glucose has
   stabilized/improved.
   - Monitor BS's q6h, NTD
   .
   # Muddy-brown wax in outer ear canal (right):
   - cipro ear drops, 7 day course, day #1 = [**12-29**]
   .
   Less active/resolved problems:
   .
   # Tachycardia: Previously appeared to have multifocal atrial
   tachycardia. Patient started previously on Lopressor; then held for
   tenuous clinical status. Continue to hold the lopressor, as HR
   appropriate range.
   - monitor on telemetry
   .
   # Anemia: Hematocrits stable for several days now after trending down
   on admission.  Will continue to monitor daily.
   -transfuse if below 21
   .
   # Thrombocytosis: patient has had stably high platelet counts, which is
   new on this admission and likely reactive.
   - monitor daily.
   - add to discharge planning issues to follow
   .
   #PEG placement: Currently getting Novasource renal
   .
   # Critical illness myopathy:
   - F/u PT consult
   .
    #Renal failure: Urine output and creatinine have improved.  Had
   component of ATN with muddy casts in urine.  Improved with treatment
   and improvement of ARDS.  Renal team has signed off.  Cr within
   baseline.
   .
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Patient already has outpatient appointment set up.
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   - Put outpatient appointment with ophtho into the D/C planning.
   # Rash: Rash improved after zosyn d/c
d.  No signs of DRESS.  Did have
   some follicles which are improving.
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here. TSH normal, continue dose as is.
   .
   # GERD: restart PPI.
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.  Patient with
   trach and now with PMV placed; needs adjustment (cough resulted in
   exhalation of stream of air) so f/u with speech & swallow again today
   for PMV adjustment. Check with nutrition re; iron deficiency.
   Prophylaxis: Subcutaneous heparin; pneumoboots, bowel regimen, PPI.
   Access: Mid-line. (Peripheral IV and A-line have been pulled).
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily.
   Disposition: Pending improved secretions.  Being screened for rehab
   awaiting insurance approval.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-28**] 05:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-18**] 08:22 PM
 will pull Arterial line today, as
   no longer necessary.
   20 Gauge - [**2111-12-22**] 12:00 PM
   Midline - [**2111-12-27**] 09:00 AM
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-28**] 08:54 PM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-12-22**] 12:00 PM
   Midline - [**2111-12-27**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-30 09:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Approved for rehab tomorrow.  Document in discharge paperwork that
   patient has prolonged swallow study, and will need to have video
   swallow evaluation at rehab.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-30**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-30**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 101 (94 - 113) bpm
   BP: 104/66(76) {93/56(63) - 113/72(82)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.9 kg (admission): 74.8 kg
   Height: 58 Inch
                  Total In:
                                                                    719 mL
                                                                    290 mL
   PO:
                  TF:
                                                                    599 mL
                                                                    230 mL
   IVF:
   Blood products:
   Total out:
                                                                    670 mL
                                                                    217 mL
   Urine:
                                                                    670 mL
                                                                    217 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     49 mL
                                                                     73 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   884 K/uL
   7.9 g/dL
   144 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   23 mg/dL
   113 mEq/L
   147 mEq/L
   23.6 %
   6.7 K/uL
        [image002.jpg]
                            [**2111-12-25**]  02:47 PM
                            [**2111-12-25**]  08:46 PM
                            [**2111-12-26**]  03:01 AM
                            [**2111-12-26**]  03:13 AM
                            [**2111-12-26**]  10:15 PM
                            [**2111-12-27**]  03:26 AM
                            [**2111-12-27**]  03:43 AM
                            [**2111-12-28**]  02:47 AM
                             [**2111-12-29**]  02:50 AM
                             [**2111-12-30**]  03:17 AM
   WBC
   8.0
   7.4
   6.6
   6.2
   6.7
   Hct
   22.7
   23.3
   23.5
   24.4
   22.5
   23.6
   23.6
   Plt
   [**Telephone/Fax (3) 10274**]73
   884
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   TCO2
   27
   27
   26
   Glucose
   75
   98
   147
   153
   144
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: [**2111-12-29**]
   TECHNIQUE: Single bedside AP examination labeled "up" is compared with
   a series of more-frequent-than-daily studies, dating back to [**2111-12-7**].
   The patient is status post tracheostomy and, as on the most recent
   studies, there is a diffuse, coarse, both interstitial and alveolar
   process involving both lungs; there is little normally-aerated lung.
   Unchanging opacities in this distribution are most suggestive of ARDS.
   Allowing for this, there is no gross pulmonary vascular congestion, and
   no change in heart size or development of pleural effusions to indicate
   a component of volume overload/CHF. Since the most recent study, the
   Dobbhoff enteric tube has been removed, with likely gastrojejunostomy
   tubing overlying the right paramedian
   upper abdomen.
   Assessment and Plan
   56M with asthma, DM, HTN presenting with respiratory distress and
   pneumonia/ARDS from influenza A/H1N1.
   .
   # Respiratory failure:  Now on trach collar and tolerating well.
   Mildly tachypneic when interacting with people, but otherwise has RR
   down to 12-13.  Will start to wean methadone.  Now off of antibiotics
   and afebrile.  Still requiring frequent suctioning of thick secretions,
   but has a good cough.  FIO2 weaned down maximally to 35-40%.
   - Continue to wean methadone from 7.5mg TID to 5mg TID, will slowly
   wean down to zero over next few days.
   - Continue nebulizer treatments and suctioning
   .
   #Fevers/leukocytosis: Fever curve and leukocytosis improved with
   antibiotics (on vanc, cipro and cefepime) and CV line removal. Had
   completed courses of Azithro, Peramivir, vanco and aztreonam for
   bacterial overgrowth of pneumonia, was then restarted on
   Vanc/Cefepime/Cipro, which was stopped yesterday b/c there was no clear
   source for his recent fevers.
   - follow-up remaining pending cultures; NTD
   .
   # DM2: Mildly hypoglycemic overnight, now stable.  Recently restarted
   tubefeeds, which are now at goal.
   Glargine reduced to 35units QHS.   Blood glucose has
   stabilized/improved.
   - Monitor BS's q6h, NTD
   .
   # Muddy-brown wax in outer ear canal (right):
   - cipro ear drops, 7 day course, day #1 = [**12-29**]
   .
   Less active/resolved problems:
   .
   # Tachycardia: Previously appeared to have multifocal atrial
   tachycardia. Patient started previously on Lopressor; then held for
   tenuous clinical status. Continue to hold the lopressor, as HR
   appropriate range.
   - monitor on telemetry
   .
   # Anemia: Hematocrits stable for several days now after trending down
   on admission.  Will continue to monitor daily.
   -transfuse if below 21
   .
   # Thrombocytosis: patient has had stably high platelet counts, which is
   new on this admission and likely reactive.
   - monitor daily.
   - add to discharge planning issues to follow
   .
   #PEG placement: Currently getting Novasource renal
   .
   # Critical illness myopathy:
   - F/u PT consult
   .
    #Renal failure: Urine output and creatinine have improved.  Had
   component of ATN with muddy casts in urine.  Improved with treatment
   and improvement of ARDS.  Renal team has signed off.  Cr within
   baseline.
   .
   # Eye redness and discharge: Per nursing, patient had contact in his
   right eye which was only removed the other day as there was no record
   that patient wore contacts. Unable to find contact in left eye.  Seen
   by ophthalmology who mentioned that contact was intentionally there.
   Patient already has outpatient appointment set up.
   - Prednisolone and tobramycin drops to R eye as prescribed.
   - Artificial tears ointment to both eyes
   - Put outpatient appointment with ophtho into the D/C planning.
   .
   # Rash: Rash improved after zosyn d/c
d.  No signs of DRESS.  Did have
   some follicles which are improving.
   - Chlorhexadine wash on arms and legs to help prevent infection of
   follicles
   .
   # Hypothyroidism: Per most recent d/c summary, Synthroid at 50mcg daily
   or 25 IV.  Continued here. TSH normal, continue dose as is.
   .
   # GERD: restart PPI.
    .
   FEN: No IVF, replete electrolytes PRN, renal tube feeds.  Patient with
   trach and now with PMV placed; needs adjustment (cough resulted in
   exhalation of stream of air) so f/u with speech & swallow again today
   for PMV adjustment. Check with nutrition re; iron deficiency.
   Prophylaxis: Subcutaneous heparin; pneumoboots, bowel regimen, PPI.
   Access: Mid-line. (Peripheral IV and A-line have been pulled).
   Code:  Full Code as discussed with parents.
   Communication: Father and mother who are in to see him daily.
   Disposition: Pending improved secretions.  Being screened for rehab
   awaiting insurance approval.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-28**] 08:54 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2111-12-27**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-12-30 11:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with Down's syndrome, influenza PNA, ARDS.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-30**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2111-12-30**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 101 (94 - 113) bpm
   BP: 104/66(76) {96/59(69) - 113/72(82)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.9 kg (admission): 74.8 kg
   Height: 58 Inch
                  Total In:
                                                                    719 mL
                                                                    348 mL
   PO:
                  TF:
                                                                    599 mL
                                                                    288 mL
   IVF:
   Blood products:
   Total out:
                                                                    670 mL
                                                                    217 mL
   Urine:
                                                                    670 mL
                                                                    217 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     49 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   884 K/uL
   144 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   23 mg/dL
   113 mEq/L
   147 mEq/L
   23.6 %
   6.7 K/uL
        [image002.jpg]
                            [**2111-12-25**]  02:47 PM
                            [**2111-12-25**]  08:46 PM
                            [**2111-12-26**]  03:01 AM
                            [**2111-12-26**]  03:13 AM
                            [**2111-12-26**]  10:15 PM
                            [**2111-12-27**]  03:26 AM
                            [**2111-12-27**]  03:43 AM
                            [**2111-12-28**]  02:47 AM
                             [**2111-12-29**]  02:50 AM
                             [**2111-12-30**]  03:17 AM
   WBC
   8.0
   7.4
   6.6
   6.2
   6.7
   Hct
   22.7
   23.3
   23.5
   24.4
   22.5
   23.6
   23.6
   Plt
   [**Telephone/Fax (3) 10274**]73
   884
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   TCO2
   27
   27
   26
   Glucose
   75
   98
   147
   153
   144
   Other labs: PT / PTT / INR:14.7/71.7/1.3, ALT / AST:31/46, Alk Phos / T
   Bili:115/0.8, Amylase / Lipase:34/10, Differential-Neuts:79.0 %,
   Band:1.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 DIABETES MELLITUS (DM), TYPE II
 ALKALOSIS, RESPIRATORY
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   Respiratory failure
   influenza PNA.
   episode of NSVT.  Low risk for VT given normal heart.  Can go ahead
   with D/C plan and recommend restart low dose lopressor.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2111-12-28**] 08:54 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2111-12-27**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes